2180-12-21 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Admitted
   CT scan
   Neuro consult
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-21**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 75 (60 - 75) bpm
   BP: 97/58(71) {89/52(66) - 97/58(71)} mmHg
   RR: 29 (19 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             51 mL
   PO:
             TF:
   IVF:
   51 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    120 mL
   Urine:
   120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 71 (0 - 71) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 133
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.45/36/80.[**Numeric Identifier 176**]/24/1
   Ve: 15.7 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left, Diminished: left base)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Non -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   43 K/uL
   11.8 g/dL
   103 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   18 mg/dL
   121 mEq/L
   151 mEq/L
   34.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2180-12-21**]  12:34 AM
                             [**2180-12-21**]  12:54 AM
                             [**2180-12-21**]  06:02 AM
   WBC
   4.2
   5.8
   Hct
   33.9
   34.8
   Plt
   37
   43
   Cr
   0.7
   TCO2
   26
   Glucose
   103
   Other labs: PT / PTT / INR:15.8/34.2/1.4, ALT / AST:359/57, Alk Phos /
   T Bili:54/2.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:191 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Imaging: CT head- b/l temporal edema
   CXR
   Microbiology: [**2180-12-18**]: Sputum MRSA
   .
   Pancultured [**2180-12-21**]
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   # Cerebral edema.  Etiology not entirely clear but could related to
   severe hepatic encephalopathy.  Not typical as she has relatively
   compensated liver disease.  Also consider other types of encephalitis
   such as infectious (HSV, bacterial).  Received mannitol on [**2180-12-19**], but
   no further dose given.
   - Neuro input apprec
   - hold on LP for now given risk of herniation
   - start Acyclovir 10mg/kg Q8H (900mg Q8H) per neuro to cover HSV
   encephalitis
   - start Ceftriaxone 2gm Q12 in addition to vanco to cover bacterial
   meningitis (droplet precautions)
   - f/u EEG (done this AM, per neuro recs)
   - will need anti-epileptic coverage once EEG result known (Keppra)
   - check na/osm Q6H; goal Na 150, goal serum osm 330 or less
   - Q1H neuro check
   - continue lactulose/rifaxamin for encephalopathy.
   - check TSH --> wnl
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Now has fever and MRSA in sputum, ? VAP.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.   This AM, was
   tachypneic and hypoxic and required increased seadation, increased FI02
   and increased PEEP.
   - continue vanco for MRSA; Add ceftriaxone as above
   - pan culture (sputum, blood, urine)
   - f/u osh cultures (sputum with MRSA on [**12-18**]/, treatment begun [**2179-12-20**])
   - serial CXR/ABG
   - VAP precautions, daily wake up, RSBI when appropriate
   - cont vent support, ARDSNET protocol
   # GI bleeding.  [**1-15**] esophageal varices.  Now stable after banding x 2.
   In total, received 13 units PRBCs, 12 units FFP, 20 units PLTs
   - monitor hemodynamics
   - Monitor Hct Daily
   - IV protonix daily
   - liver team following
   # Hypernatremia.  Unclear etiology.  Does not look like she received
   hypertonic saline.  Could be dehydration, as TFs were held due to high
   residuals.
   - Goal sodium 150-160 to help cerebral edema
   - Na Q6H
   # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and variceal bleeding.
   Encephalopathic
   - stable from UGI bleeding standpoint
   - lactulose until she stools large volume
   - RUQ u/s to assess portal patency
   - diagnostic paracentesis to r/o SBP
   - trend transaminases, Tbili, albumin, coags
   # Depression: hold meds given mental status
   # FEN: will need tube feeds
   # Access: R subclav, a-line from OSH; these will need to be re-sited
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 12:18 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-21 12:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Admitted to the ICU overnight after transfer from OSH where she
   presented on [**12-14**] with UGIB.  Intubated and underwent
   EGD-->varices-->banded.  Initially hypotensive but eventually weaned
   off pressors.  In OSH ICU, not waking off sedation and then had
   tonic-clonic seizure.  Head CT with B/L temporal/parietal edema.  Tx'd
   to [**Hospital1 19**] for further care.
   Underwent head CT here after arrival and was seen by neurology who did
   not recommend mannitol at that time based on a sodium >150.
   Some tachypnea this AM, improved with increased sedation
   History obtained from Medical records
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-21**] 08:00 AM
   Acyclovir - [**2180-12-21**] 10:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   RISS, ursodiol, protonix, lactulose, Vancomycin, rifaximin, propofol,
   peridex, acyclovir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-21**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 87 (60 - 89) bpm
   BP: 110/63(78) {88/52(65) - 110/67(82)} mmHg
   RR: 30 (19 - 45) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             757 mL
   PO:
             TF:
   IVF:
   697 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    435 mL
   Urine:
   235 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 71 (0 - 71) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI: 133
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 92%
   ABG: 7.45/36/80.[**Numeric Identifier 176**]/24/1
   Ve: 10.7 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ventilated BS, Diminished:
   at bases)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   43 K/uL
   104 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   20 mg/dL
   120 mEq/L
   152 mEq/L
   34.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2180-12-21**]  12:34 AM
                             [**2180-12-21**]  12:54 AM
                             [**2180-12-21**]  06:02 AM
   WBC
   4.2
   5.8
   Hct
   33.9
   34.8
   Plt
   37
   43
   Cr
   0.7
   0.7
   TCO2
   26
   Glucose
   103
   104
   Other labs: PT / PTT / INR:15.8/34.2/1.4, ALT / AST:346/56, Alk Phos /
   T Bili:57/3.7, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:191 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR:  ETT/line in place. Low lung volumes with LLL opacity c/w
   effusion vs atelectasis vs consolidation
   Microbiology: OSH sputum Cx ([**12-19**]):  MRSA
   Assessment and Plan
   49 yo F with HCV/etoh cirrhosis with associated
   varices/ascites/encephalopathy/hepatopulmonary syndrome now transferred
   from OSH after presenting with variceal bleed.  Course c/b intubation,
   seizure and bitemporal cerebral edema.
   Cerebral edema: Appreciate neuro input.  Diff dx: encephalopathy vs
   encephalitis (HSV).
     -Start Acyclovir and ceftriaxone in addition to vanco she's already
   on.
     -After discussion with neurology team, we will delay LP at this time
   given possible risk of herniation given edema.
     -Check EEG, if seizure activity-->AED
     -Check sodium/osms Q4hr.  If sodium <150, osms <330-->mannitol
     -Continue lactulose for encephalopathy
     -Head CT in next 48 hours to determine safety of LP.
   Respiratory Failure:  Likely multifactorial including ascites,
   encephalopathy, and possible PNA
     -Vanco with goal level 15-20
     -Continue vent support as is
   GIB:  Stable for the moment
     -Monitor HCT
   Cirrhosis:
     -Given low grade temps, will perform diagnostic paracentesis
     -RUQ u/s with doppler to assess vasculature
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 12:18 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2180-12-22 07:31:00 Physician Resident Progress Note
Chief Complaint: Cerebral edema
   Seizure
   Encephalopathy
   GI bleed
   24 Hour Events:
   - was found to be seizing on EEG, keppra loaded and daily dose started
   - serial Na's and Osms were stable around 150/300, didn't add any
   mannitol yet
   - paracentesis negative for SBP
   - CVL changed
   - gases look good on ARDS settings
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2180-12-21**] 06:00 PM
   Vancomycin - [**2180-12-21**] 08:00 PM
   Ceftriaxone - [**2180-12-22**] 12:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2180-12-21**] 03:48 PM
   Other medications:
   Keppra 1000 [**Hospital1 7**]
   Lactulose 30 ML Q6H
   Albuterol IH Q6H
   Ursodiol 300 [**Hospital1 7**]
   Vanco 1000 Q12
   Ceftriaxone 2gm Q12
   Acyclovir 900 Q8H
   Protonix 40mg IV Q24
   Rifaxamin
   Chlorhexidine
   Propofol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-22**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 84 (75 - 97) bpm
   BP: 99/53(69) {85/44(58) - 140/74(94)} mmHg
   RR: 18 (18 - 45) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (8 - 13)mmHg
   Total In:
                                                                  3,426 mL
                                                                    744 mL
   PO:
   TF:
                                                                     20 mL
                                                                    140 mL
   IVF:
                                                                  3,075 mL
                                                                    444 mL
   Blood products:
                                                                    241 mL
   Total out:
                                                                    965 mL
                                                                    310 mL
   Urine:
                                                                    765 mL
                                                                    310 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,461 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.39/39/123/21/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : on
   right, Diminished: left base, Rhonchorous: left)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   50 K/uL
   10.7 g/dL
   108 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   15 mg/dL
   120 mEq/L
   150 mEq/L
   30.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2180-12-21**]  12:34 AM
                             [**2180-12-21**]  12:54 AM
                             [**2180-12-21**]  06:02 AM
                             [**2180-12-21**]  11:48 AM
                             [**2180-12-21**]  05:44 PM
                             [**2180-12-21**]  11:13 PM
                             [**2180-12-22**]  04:22 AM
                             [**2180-12-22**]  05:12 AM
   WBC
   4.2
   5.8
   5.4
   Hct
   33.9
   34.8
   31.4
   30.3
   Plt
   37
   43
   46
   50
   Cr
   0.7
   0.7
   0.7
   TCO2
   26
   23
   24
   24
   Glucose
   103
   104
   108
   Other labs: PT / PTT / INR:14.4/34.4/1.3, ALT / AST:236/58, Alk Phos /
   T Bili:58/2.8, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:332 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: RUQ: patent hepatic venous flow.  Ascites.
   Microbiology: At OSH [**2180-12-18**]: MRSA in sputum
   Sputum [**2180-12-21**]- 3+ GPCs on gram stain
   Blood [**2180-12-21**] x 2: NGTD
   Urine [**2180-12-21**]: NGTD
   Ascities [**2180-12-21**]: no org on gram stain, culture pending
   Cath tip (CVL) [**2180-12-21**]: NGTD
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   Found now to be seizing by EEG.
   # Cerebral edema.  Etiology not entirely clear but could related to
   severe hepatic encephalopathy.  Not typical as she has relatively
   compensated liver disease.  Also consider other types of encephalitis
   such as infectious (HSV, bacterial).
   - consider LP to r/o meningitis; will need to consider risk of
   herniation
   - Neuro input apprec
   - seizing on EEG; on keppra
   - Acyclovir 10mg/kg Q8H (900mg Q8H) to cover HSV encephalitis
   - CTX/Vanco for coverage of bacterial meningitis
   - check na/osm Q6H; goal Na 150, goal serum osm 330 or less
   - Q1H neuro check
   - continue lactulose/rifaxamin for encephalopathy.
   - check TSH --> wnl
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Now has fever and MRSA in sputum, ? VAP.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.   EEG results indicate
   sporatic seizure, which is likely contributing.
   - ABX: vanco (for MRSA in sputum), also on ceftriaxone
   - culture data here shows sputum with GPCs, otherwise ngtd
   - f/u osh cultures (sputum with MRSA on [**12-18**]/, treatment begun [**2179-12-20**])
   - serial CXR/ABG
   - VAP precautions, daily wake up, RSBI when appropriate
   - cont vent support, ARDSNET protocol, try to wean FIO2, baseline PaO2
   is in the 60s
   # GI bleeding.  [**1-15**] esophageal varices.  Now stable after banding x 2.
   In total, received 13 units PRBCs, 12 units FFP, 20 units PLTs, all at
   [**Hospital6 **]
   - monitor hemodynamics
   - Monitor Hct Daily (drifting slightly)
   - IV protonix daily
   - liver team following
   # Hypernatremia.  Unclear etiology. Will not correct as goal to dry out
   brain edema
   - Goal sodium 150-160 to help cerebral edema
   - Na Q6H
   # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and variceal bleeding.
   Encephalopathic
   - stable from UGI bleeding standpoint
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
   # Depression: hold meds given mental status
   # FEN: TFs
   # Access: CVL placed [**2180-12-21**], left IJ, a-line
   # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2180-12-21**] 10:00 PM 20 mL/hour
   Follow up nutrition recs
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-22 09:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Noted to have sub-clinical status on EEG when propofol off-->loaded
   with Keppra
   CVC changed
   Diagnostic paracentesis performed
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2180-12-21**] 06:00 PM
   Ceftriaxone - [**2180-12-22**] 12:00 AM
   Vancomycin - [**2180-12-22**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2180-12-21**] 03:48 PM
   Other medications:
   Peridex, rifaxamin, pantoprazole, ursodiol, RISS, lactulose, Keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-22**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 88 (82 - 97) bpm
   BP: 101/55(71) {85/44(58) - 140/74(94)} mmHg
   RR: 20 (18 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (8 - 13)mmHg
   Total In:
                                                                  3,426 mL
                                                                  1,067 mL
   PO:
   TF:
                                                                     20 mL
                                                                    180 mL
   IVF:
                                                                  3,075 mL
                                                                    697 mL
   Blood products:
                                                                    241 mL
   Total out:
                                                                    965 mL
                                                                    455 mL
   Urine:
                                                                    765 mL
                                                                    455 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,461 mL
                                                                    613 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/39/123/21/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L>R, Diminished:
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   50 K/uL
   108 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   15 mg/dL
   120 mEq/L
   150 mEq/L
   30.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2180-12-21**]  12:34 AM
                             [**2180-12-21**]  12:54 AM
                             [**2180-12-21**]  06:02 AM
                             [**2180-12-21**]  11:48 AM
                             [**2180-12-21**]  05:44 PM
                             [**2180-12-21**]  11:13 PM
                             [**2180-12-22**]  04:22 AM
                             [**2180-12-22**]  05:12 AM
   WBC
   4.2
   5.8
   5.4
   Hct
   33.9
   34.8
   31.4
   30.3
   Plt
   37
   43
   46
   50
   Cr
   0.7
   0.7
   0.7
   TCO2
   26
   23
   24
   24
   Glucose
   103
   104
   108
   Other labs: PT / PTT / INR:14.4/34.4/1.3, ALT / AST:236/58, Alk Phos /
   T Bili:58/2.8, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:332 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: Ascites: WBC 130
   Imaging: RUQ U/S:  Patent hepatic vasculature
   CXR:  ETT about 1 cm above the carina.  CVC in place. L base opacity.
   Microbiology: Ascites:  GS Neg, cx pending
   Assessment and Plan
   49 yo F with HCV/etoh cirrhosis with associated
   varices/ascites/encephalopathy/hepatopulmonary syndrome now transferred
   from OSH after presenting with variceal bleed.  Course c/b intubation,
   seizure and bitemporal cerebral edema.
    Cerebral edema:  Diff dx: encephalopathy vs encephalitis (HSV) vs less
   likely bacterial meningoencephalitis
     -Neuro service following
 appreciate recs
     -Continue ACV, ceftriaxone, vancomycin
     -Holding on LP for now, will repeat Head CT tomorrow morning to
   assess edema/mass effect.  If safe, would perform LP.
     -Now loaded on Keppra, would be helpful to know if still seizing off
   proprofol now that keppra is on board
     -Check sodium/osms Q4hr.  If sodium <150, osms <330-->mannitol
     -Continue lactulose for encephalopathy
    Respiratory Failure:  Likely multifactorial including ascites,
   encephalopathy, and possible PNA/effusion.  Hepatopulmonary syndrome
   likely contributing to O2 requrirement.
     -Vanco with goal level 15-20
     -Wean FiO2 today.
    GIB:  Stable for the moment
     -Monitor HCT
    Cirrhosis:  No evidence of SBP on paracentesis
     -Continue lactulose, rifaximin
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2180-12-21**] 10:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2180-12-23 08:03:00 Physician Resident Progress Note
Chief Complaint: Cerebral edema
   Seizure
   GI bleed
   Encephalopathy
   Resp Failure
   24 Hour Events:
   -- repeat head CTA, per neuro, showed no infarct/embolism (unless
   extremely proximal venous clot);  no sig change radiographically
   -- they still have no idea, really, empirically treating; no plans for
   LP
   -- Na < 150;ended up giving mannitol 20% 25 mg IV x 3 thorughout day,
   never gave hypertonic saline
   -- having mo e BM's with increased lactulose
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-22**] 08:00 PM
   Ceftriaxone - [**2180-12-23**] 12:49 AM
   Acyclovir - [**2180-12-23**] 02:28 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-23**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 86 (79 - 100) bpm
   BP: 128/67(88) {92/46(62) - 140/79(100)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 13 (5 - 17)mmHg
   Total In:
                                                                  2,936 mL
                                                                    737 mL
   PO:
   TF:
                                                                    700 mL
                                                                    317 mL
   IVF:
                                                                  1,766 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    370 mL
   Urine:
                                                                  1,490 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,446 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 101
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/38/75/21/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bibasilarly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   64 K/uL
   12.3 g/dL
   153 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.1 mEq/L
   11 mg/dL
   120 mEq/L
   148 mEq/L
   34.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2180-12-21**]  06:02 AM
                             [**2180-12-21**]  11:48 AM
                             [**2180-12-21**]  05:44 PM
                             [**2180-12-21**]  11:13 PM
                             [**2180-12-22**]  04:22 AM
                             [**2180-12-22**]  05:12 AM
                             [**2180-12-22**]  10:54 AM
                             [**2180-12-22**]  12:43 PM
                             [**2180-12-22**]  06:18 PM
                             [**2180-12-23**]  03:43 AM
   WBC
   5.8
   5.4
   6.6
   Hct
   34.8
   31.4
   30.3
   34.2
   Plt
   43
   46
   50
   64
   Cr
   0.7
   0.7
   0.6
   TCO2
   23
   24
   24
   24
   23
   25
   Glucose
   104
   108
   153
   Other labs: PT / PTT / INR:15.1/33.4/1.3, ALT / AST:197/48, Alk Phos /
   T Bili:67/2.2, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:332 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR:
   CTA head:
   Normal CT angiography and CT venography with no thrombosis.
   Unchanged diffuse hypodensity involving the white matter tracks
   predominantly
   involving temporal lobes, also involving the frontal lobes. The
   differential
   diagnosis includes cerebral edema again due to liver failure. However,
   other white matter disease are also included in the differential.
   Please note that MRI of the head is the best modality for evaluation of
   the white matter disease and cerebral edema.
   Microbiology: [**2180-12-21**] - pan cultured:
   Sputum: Staph Aureus mod growth
   Blood x2: NGTD
   Cath tip: NGTD
   Urine: No growth (final)
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   Found now to be seizing by EEG.
   # Cerebral edema.  Etiology not entirely clear but could related to
   severe hepatic encephalopathy.  Not typical as she has relatively
   compensated liver disease.  Also consider other types of encephalitis
   such as infectious (HSV, bacterial).
   - consider LP to r/o meningitis; will need to consider risk of
   herniation (currently risk too high for LP)
   - Neuro input apprec
   - CTA head [**2180-12-22**] - no evidence CVA, no change in edema
   - received  mannitol [**2180-12-22**] per neurology; currently recommend holding
   it
   - neuro instead favoring hypertonic saline at slow rate to keep Na >
   150
   - serial Na/OSM every 6 hours; goal Na 150-160 and Osm < 330
   - seizing on EEG; on keppra
   - Acyclovir 10mg/kg Q8H (900mg Q8H) to cover HSV encephalitis
   - CTX/Vanco for coverage of bacterial meningitis
   - Q1H neuro check
   - continue lactulose/rifaxamin for encephalopathy.
   - check TSH --> wnl
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Now has fever and MRSA in sputum, ? VAP.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.   EEG results indicate
   sporatic seizure, which is likely contributing.
   - ABX: vanco (for MRSA in sputum at OSH), also on ceftriaxone
   - culture data here shows sputum with Staph Aureus ([**Last Name (un) 270**] pending, but
   likely MRSA)
   - f/u osh cultures (sputum with MRSA on [**2180-12-18**], treatment begun [**2179-12-20**])
   - serial CXR/ABG
   - VAP precautions, daily wake up, RSBI when appropriate
   - cont vent support, trial of PS failed (tachypneic) so back on ARDSNET
   ventilation with volume control
   # GI bleeding.  [**1-15**] esophageal varices.  Now stable after banding x 2.
   In total, received 13 units PRBCs, 12 units FFP, 20 units PLTs, all at
   [**Hospital6 **]
   - monitor hemodynamics
   - Monitor Hct Daily
   - IV protonix daily
   - liver team following
   # Hypernatremia.  Unclear etiology. Will not correct as goal to dry out
   brain edema. Drifting down, but will not start hypertonic saline in
   favor of mannitol
   - Goal sodium 150-160 to help cerebral edema
   - Hypertonic saline to achieve this
   - Na Q6H
   # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and variceal bleeding.
   Encephalopathic
   - stable from UGI bleeding standpoint
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
   # Depression: hold meds given mental status
   # FEN: TFs
   # Access: CVL placed [**2180-12-21**], left IJ, a-line
   # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-23**] 03:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-24 07:08:00 Physician Resident Progress Note
Chief Complaint: Hematemesis, UGIB
   Seizure
   Cerebral Edema
   24 Hour Events:
   - neuro recommended no more mannitol; reserve it in case herniation
   occurs
   - started hypertonic saline per neuro, increased dose to 15ml/hr at 6AM
   [**2180-12-24**]
   - sodium did not increase significantly; increased 3% saline as above
   - neuro recommended repeat CT head tomorrow [**12-24**] - no LP yet
   - vanco dose increased to 1250 Q12 for low trough
   - high residuals on TFs- started reglan 5mg IV Q6H
   - 6:30PM - bright red blood when checking for residuals - lavaged at
   least 200cc - Liver saw pt, lavage cleared and clots noted.  Increased
   Protonix to [**Hospital1 7**], serial Hct initially dropped 3 pts, then stable
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-12-23**] 12:00 PM
   Vancomycin - [**2180-12-23**] 08:17 PM
   Acyclovir - [**2180-12-24**] 03:34 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Keppra 1000mg [**Hospital1 7**]
   Vancomycin 1250 IV BID
   Ceftriaxone 2 gm IV Q12
   Acyclovir 900mg IV Q8H
   Protonix 40mg IV Q12
   Lactulose 30 ML Q4H
   Rifaximin 400mg TID
   Ursodiol 300mg [**Hospital1 7**]
   Chlorhexidine mouth rinse
   Combivent IH Q6H PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-24**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 100 (84 - 108) bpm
   BP: 133/77(96) {107/64(80) - 148/88(109)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 14 (8 - 18)mmHg
   Total In:
                                                                  2,656 mL
                                                                    980 mL
   PO:
   TF:
                                                                    491 mL
   IVF:
                                                                  1,715 mL
                                                                    980 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    200 mL
   Urine:
                                                                  1,500 mL
                                                                    200 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    656 mL
                                                                    780 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 457 (457 - 457) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 171
   PIP: 25 cmH2O
   SpO2: 94%
   ABG: 7.41/35/86/22/-1
   Ve: 8.9 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Anicteric sclera
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Diminished: Left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   12.0 g/dL
   112 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.0 mEq/L
   7 mg/dL
   119 mEq/L
   149 mEq/L
   33.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2180-12-22**]  04:22 AM
                             [**2180-12-22**]  05:12 AM
                             [**2180-12-22**]  10:54 AM
                             [**2180-12-22**]  12:43 PM
                             [**2180-12-22**]  06:18 PM
                             [**2180-12-23**]  03:43 AM
                             [**2180-12-23**]  09:20 AM
                             [**2180-12-23**]  06:07 PM
                             [**2180-12-23**]  10:07 PM
                             [**2180-12-24**]  03:47 AM
   WBC
   5.4
   6.6
   6.9
   6.5
   Hct
   30.3
   34.2
   35.6
   32.8
   33.1
   Plt
   50
   64
   77
   68
   Cr
   0.7
   0.6
   0.6
   TCO2
   24
   24
   23
   25
   23
   Glucose
   108
   153
   112
   Other labs: PT / PTT / INR:15.8/36.4/1.4, ALT / AST:150/50, Alk Phos /
   T Bili:67/2.0, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:229 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CT head [**2180-12-22**] - no evidence vascular obstruction, unchanged
   edema
   CT head [**12-24**]: no significant change in edema
   CXR: stable
   Microbiology: Sputum [**2180-12-21**] - MRSA
   Blood x2 [**2180-12-21**]- NGTD
   Ascites [**2180-12-21**] - NGTD
   Urine [**2180-12-21**] - No growth
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   Bright red blood lavaged from NG tube on [**2180-12-23**].
   # UGIB- bright red blood with clots lavaged from NG tube.  Concern for
   variceal bleed (had significant bleed which she was initially admitted
   to [**Hospital6 2762**] for, s/p banding x 2  13 units PRBCs, 12 units
   FFP, 20 units PLTs, all at OSH.   GI aware of new bleeding, but felt
   not large volume.  Hemodynamically stable with stable Hct.
   - IV PPI [**Hospital1 7**]
   - flush Q6H
   - access: CVL and 18g peripheral
   - Q12H hematocrit
   - Call liver if evidence of acute bleeding
   # Cerebral edema.  Etiology not entirely clear but could related to
   severe hepatic encephalopathy.  Not typical as she has relatively
   compensated liver disease.  Also consider other types of encephalitis
   such as infectious (HSV, bacterial).
   - consider LP to r/o meningitis; will need to consider risk of
   herniation ( (repeat CT head to assess extent of edema)
   - Neuro input apprec
   - repeat CT head [**2180-12-24**]  - stable edema, no LP today per neuro
   - started hypertonic saline now rate 15ml/hr
   - serial Na/OSM every 6 hours; goal Na 150-160 and Osm < 330
   - reserve use of mannitol in case evidence of herniation
   - was seizing on EEG; on keppra an no recent seizures
   - Acyclovir 10mg/kg Q8H (900mg Q8H) to cover HSV encephalitis
   - CTX/Vanco for coverage of bacterial meningitis
   - Q1H neuro check
   - continue lactulose/rifaxamin for encephalopathy.
   - check TSH --> wnl
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Does have MRSA in sputum, ? PNA at left base.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.   EEG results indicate
   sporatic seizure, which was likely contributing.
   - Did not tolerate PS [**2180-12-23**]; cont AV ARDSNET ventilation
   - ABX: vanco (for MRSA in sputum [**2180-12-21**]), also on ceftriaxone
   - f/u cultures
   - serial CXR/ABG
   - VAP precautions, daily wake up, RSBI when appropriate
   - cont vent support, trial of PS failed (tachypneic) so back on ARDSNET
   ventilation with volume control
   # Hypernatremia.  Unclear etiology. Will not correct as goal to dry out
   brain edema. Drifting down, but now on hypertonic saline to bring Na
   back up
   - Goal sodium 150-160 to help cerebral edema
   - Hypertonic saline to achieve this
   - Na Q6H
   # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and variceal bleeding.
   - stable from UGI bleeding standpoint
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
   # Depression: hold meds given mental status
   # FEN: TFs - holding in setting of UGIB
   # Access: CVL placed [**2180-12-21**], left IJ, a-line. 18g peripheral
   # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-25 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   24h events:
   -- repeat head CT: no change in edema
   -- still on broad spectrum meningeal antibiotics
   -- failed trial of PSV again, back on A/C
   -- sodium drifted down to 147, upped hypertonic saline to 25cc/hr
   This AM, follows commands, interacts. Denies abdominal pain, no
   difficulty breathing.
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-24**] 08:34 PM
   Ceftriaxone - [**2180-12-25**] 12:41 AM
   Acyclovir - [**2180-12-25**] 03:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-25**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 95 (92 - 102) bpm
   BP: 115/67(83) {108/67(83) - 144/84(105)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (4 - 18)mmHg
   Total In:
                                                                  3,472 mL
                                                                  1,460 mL
   PO:
   TF:
                                                                     78 mL
   IVF:
                                                                  3,142 mL
                                                                  1,201 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    395 mL
   Urine:
                                                                    860 mL
                                                                    395 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  2,462 mL
                                                                  1,065 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 28 cmH2O
   SpO2: 94%
   ABG: 7.41/34/112/22/-1
   Ve: 11.3 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Opens eyes, follows simple commands,
   RRR
   Decreased BS at b/l bases but otherwise clear
   Abdomen distended and firm, not tense, + BS
   Ext WWP with trace edema
   Labs / Radiology
   78 K/uL
   11.3 g/dL
   125 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   7 mg/dL
   119 mEq/L
   147 mEq/L
   33.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2180-12-22**]  06:18 PM
                             [**2180-12-23**]  03:43 AM
                             [**2180-12-23**]  09:20 AM
                             [**2180-12-23**]  06:07 PM
                             [**2180-12-23**]  10:07 PM
                             [**2180-12-24**]  03:47 AM
                             [**2180-12-24**]  10:47 AM
                             [**2180-12-24**]  10:59 AM
                             [**2180-12-24**]  10:36 PM
                             [**2180-12-25**]  04:09 AM
   WBC
   6.6
   6.9
   6.5
   6.0
   Hct
   34.2
   35.6
   32.8
   33.1
   31.9
   33.9
   33.4
   Plt
   64
   77
   68
   78
   Cr
   0.6
   0.6
   0.6
   TCO2
   25
   23
   22
   Glucose
   153
   112
   125
   Other labs: PT / PTT / INR:15.4/37.1/1.4, ALT / AST:113/48, Alk Phos /
   T Bili:67/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: [**12-25**] CXR
   poor inspiratory effort with low lung volumes. ETT in good position. No
   new infiltrate
   [**12-24**] CT Head
   IMPRESSION:
   1. Unchanged diffuse hypodensity involving the white matter tracts
   predominantly involving the temporal lobe, also involving the frontal
   lobes.
   The differential diagnosis includes cerebral edema due to the liver
   failure.
   Other white matter disease cannot be excluded. MRI of the head is the
   best
   modality for evaluation of the white matter disease and cerebral edema.
   2. No other acute intracranial pathology is identified.
   Microbiology: [**12-21**] sputum: MRSA
   [**12-21**] Urine: negative
   [**12-21**] peritoneal fluid: negative
   [**12-21**] catheter tip: no growth
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   Bright red blood lavaged from NG tube on [**2180-12-23**].
   # UGIB- bright red blood with clots lavaged from NG tube.  Concern for
   variceal bleed (had significant bleed which she was initially admitted
   to [**Hospital6 2762**] for, s/p banding x 2  13 units PRBCs, 12 units
   FFP, 20 units PLTs, all at OSH.   GI aware of new bleeding, but felt
   not large volume.  Hemodynamically stable with stable Hct throughout
   [**12-24**].
   - IV PPI [**Hospital1 7**]
   - flush Q6H
   - access: CVL and 18g peripheral
   - can transition back to daily HCT checks
   - resumed TFs
   - Call liver if evidence of acute bleeding
   # Cerebral edema.  hepatic decompensation vs infectious
   - still can
t do LP to r/o meningitis due to risk of herniation, repeat
   CT head with unchanged edema
   - Neuro input appreciated
   - increase hypertonic saline to 30cc hr to get Na to goal of 150
   - continue serial Na/OSM every 6 hours; goal Na 150 and Osm < 330
   - reserve use of mannitol in case evidence of herniation
   - continue keppra
   - Acyclovir 10mg/kg Q8H (900mg Q8H) to cover HSV encephalitis
   - would peel off CTX/Vanco for coverage of bacterial meningitis
   - continue lactulose/rifaxamin for encephalopathy.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Does have MRSA in sputum, ? PNA at left base.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.
   - Did not tolerate PS [**2180-12-23**] or [**2179-12-24**]; cont AV ARDSNET ventilation
   - ABX: vanco (for MRSA in sputum [**2180-12-21**]), also on ceftriaxone
   - VAP precautions, daily wake up, RSBI when appropriate
   - cont vent support, trial of PS failed (tachypneic) so back on ARDSNET
   ventilation with volume control
   - would perform LV paracentesis today to minimize restrictive component
   to breathing
   # Hypernatremia.  Unclear etiology. Will not correct as goal to dry out
   brain edema. Drifting down, but now on hypertonic saline to bring Na
   back up
   - Goal sodium 150-160 to help cerebral edema
   - Hypertonic saline to achieve this
   - Na Q6H
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and variceal bleeding.
   - stable from UGI bleeding standpoint
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
   - would do LV para on [**12-25**]
    # Depression: hold meds given mental status
   # FEN: TFs - holding in setting of UGIB
    # Access: CVL placed [**2180-12-21**], left IJ, a-line. 18g peripheral
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-25**] 03:46 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 04:00 PM
   18 Gauge - [**2180-12-24**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-25 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed trial of PSV due to tachypnea.
   Maintained on hypertonic saline to target sodium <150
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-12-25**] 12:41 AM
   Vancomycin - [**2180-12-25**] 08:24 AM
   Acyclovir - [**2180-12-25**] 10:31 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-12-25**] 07:43 AM
   Other medications:
   Peridex, rifaximin, ursodiol, RISS, Keppra, Lactulose, Reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-25**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 95 (92 - 102) bpm
   BP: 110/66(81) {108/65(81) - 144/84(105)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  3,472 mL
                                                                  2,378 mL
   PO:
   TF:
                                                                    138 mL
   IVF:
                                                                  3,142 mL
                                                                  2,010 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    508 mL
   Urine:
                                                                    860 mL
                                                                    508 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  2,462 mL
                                                                  1,870 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 26 cmH2O
   Plateau: 27 cmH2O
   SpO2: 93%
   ABG: 7.41/34/112/22/-1
   Ve: 10 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bibasilar)
   Abdominal: Non-tender, Bowel sounds present, Distended, firm
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   78 K/uL
   125 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   7 mg/dL
   119 mEq/L
   147 mEq/L
   33.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2180-12-22**]  06:18 PM
                             [**2180-12-23**]  03:43 AM
                             [**2180-12-23**]  09:20 AM
                             [**2180-12-23**]  06:07 PM
                             [**2180-12-23**]  10:07 PM
                             [**2180-12-24**]  03:47 AM
                             [**2180-12-24**]  10:47 AM
                             [**2180-12-24**]  10:59 AM
                             [**2180-12-24**]  10:36 PM
                             [**2180-12-25**]  04:09 AM
   WBC
   6.6
   6.9
   6.5
   6.0
   Hct
   34.2
   35.6
   32.8
   33.1
   31.9
   33.9
   33.4
   Plt
   64
   77
   68
   78
   Cr
   0.6
   0.6
   0.6
   TCO2
   25
   23
   22
   Glucose
   153
   112
   125
   Other labs: PT / PTT / INR:15.4/37.1/1.4, ALT / AST:113/48, Alk Phos /
   T Bili:67/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:  ETT/CVC in place.  Low lung volumes but otherwise clear.
   Head CT: Unchanged cerebral edema
   Microbiology: Sputum Cx:  MRSA
   UCx:  NGTD
   Cath tip:  NGTD
   Ascites:  NGTD
   Assessment and Plan
   1) CEREBRAL EDEMA:  HSV encephalitis remains a possibility.  Head CT is
   stable and she appears to be interacting somewhat today.
   -Continue acyclovir empirically for HSV, holding off on LP due to
   cerebral edema.
   -Will d/c ceftriaxone as there is no evidence of bacterial meningitis
   -Hypertonic saline to maintain sodium 150.
   -Serial head CT and neuro exams.
   -Keppra for seizures.  EEG monitoring for epilepsy team.
   -Continue lactulose/rifaximin
   2) HEMATEMESIS:  Some clots from OGT over the weekend.  None recently
     -Continue to monitor Hct's through the day.
     -GI following.  Cont PPI.
   3) RESP FAILURE:  Though she has a MRSA pneumonia, her cerebral edema
   has also limited extubation.
     -Check compliance
     -PSV trial today.
     -Diurese today, goal CVP <6.  Consider paracentesis soon to improve
   chest wall mechanics.
     -Continue vancomycin.
    4) CIRRHOSIS:
    -Continue lactulose, rifaxmin.
    5) NUTRITION:
    -Resume TFs today
   Rest of plan per Resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-25**] 03:46 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 04:00 PM
   18 Gauge - [**2180-12-24**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2180-12-26 08:02:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   Cerebral edema
   24 Hour Events:
   -- d/c-ed the ceftriaxone
   -- did not tap ascites; wrote for spironolactone + lasix --> gave lasix
   20 mg, 40 mg, and 40 mg IV boluses; then another 40 this morning at 6AM
   -- ordered Keppra level per neuro
   Patient unable to provide history: Sedated
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-12-25**] 12:28 PM
   Vancomycin - [**2180-12-25**] 07:49 PM
   Acyclovir - [**2180-12-26**] 03:59 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2180-12-26**] 06:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-26**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 107 (92 - 113) bpm
   BP: 105/63(78) {105/63(78) - 142/85(104)} mmHg
   RR: 19 (19 - 27) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 13 (8 - 16)mmHg
   Total In:
                                                                  4,828 mL
                                                                  1,286 mL
   PO:
   TF:
                                                                    581 mL
                                                                    386 mL
   IVF:
                                                                  3,807 mL
                                                                    809 mL
   Blood products:
   Total out:
                                                                  4,289 mL
                                                                  1,220 mL
   Urine:
                                                                  4,189 mL
                                                                  1,220 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    539 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 210 (210 - 210) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 275
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.42/37/76.[**Numeric Identifier 126**]/23/0
   NIF: -19 cmH2O
   Ve: 8.2 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: left base)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   90 K/uL
   12.4 g/dL
   142 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.5 mEq/L
   7 mg/dL
   121 mEq/L
   150 mEq/L
   35.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2180-12-23**]  09:20 AM
                             [**2180-12-23**]  06:07 PM
                             [**2180-12-23**]  10:07 PM
                             [**2180-12-24**]  03:47 AM
                             [**2180-12-24**]  10:47 AM
                             [**2180-12-24**]  10:59 AM
                             [**2180-12-24**]  10:36 PM
                             [**2180-12-25**]  04:09 AM
                             [**2180-12-26**]  03:25 AM
                             [**2180-12-26**]  03:47 AM
   WBC
   6.9
   6.5
   6.0
   6.7
   Hct
   35.6
   32.8
   33.1
   31.9
   33.9
   33.4
   35.1
   Plt
   77
   68
   78
   90
   Cr
   0.6
   0.6
   0.7
   TCO2
   23
   22
   25
   Glucose
   112
   125
   142
   Other labs: PT / PTT / INR:15.5/36.5/1.4, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR [**12-25**]:
   FINDINGS: In comparison with the study of [**12-24**], the endotracheal tube
   now
   measures only about 1.5 cm above the carina. Extremely low lung volumes
   are
   noted. No definite focal pneumonia or vascular congestion.
   CT head [**12-24**]:
   MPRESSION:
   1. Unchanged diffuse hypodensity involving the white matter tracts
   predominantly involving the temporal lobe, also involving the frontal
   lobes.
   The differential diagnosis includes cerebral edema due to the liver
   failure.
   Other white matter disease cannot be excluded. MRI of the head is the
   best
   modality for evaluation of the white matter disease and cerebral edema.
   2. No other acute intracranial pathology is identified.
   Microbiology: [**2180-12-21**]:
   Blood x 2: NGTD
   Sputum - MRSA
   Urine: NG (final)
   cath tip - No growth (final)
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   Bright red blood lavaged from NG tube on [**2180-12-23**].
   # UGIB- bright red blood with clots lavaged from NG tube.  Concern for
   variceal bleed (had significant bleed which she was initially admitted
   to [**Hospital6 2762**] for, s/p banding x 2  13 units PRBCs, 12 units
   FFP, 20 units PLTs, all at OSH.   GI aware of new bleeding, but felt
   not large volume.  Hemodynamically stable with stable Hct
   - IV PPI [**Hospital1 7**]
   - flush Q6H
   - access: CVL and 18g peripheral
   - Has been stable so back to daily Hct checks
   - resumed TFs
   - Call liver if evidence of acute bleeding
   # Cerebral edema.  hepatic decompensation vs infectious
   - still can
t do LP to r/o meningitis due to risk of herniation, repeat
   CT head with unchanged edema
   - Neuro input appreciated
   - will obtain MRI brain to characterize edema
   - hypertonic saline @ 30cc hr to get Na to goal of 150
   - continue serial Na/OSM every 6 hours; goal Na 150 and Osm < 330
   - reserve use of mannitol in case evidence of herniation
   - continue keppra (check level)
   - Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis
   - peeled off CTX for coverage of bacterial meningitis - vanco continued
   for MRSA in sputum
   - continue lactulose/rifaxamin for encephalopathy.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Does have MRSA in sputum, ? PNA at left base.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.    Diuresis with IV
   lasix begun [**2180-12-25**] but only even so far despite lasix
   - trying to diurese with IV lasix and PO spironolactone; goal > 1L
   negative daily
   - Did not tolerate PS (tachypneic); cont AV ARDSNET ventilation but try
   PS daily
   - ABX: vanco (for MRSA in sputum [**2180-12-21**]), stopped CTX
   - VAP precautions, daily wake up, RSBI when appropriate
   - consider  paracentesis (large volume) to assist with her breathing
   but trial of diuresis first
   # Hypernatremia.  Unclear etiology. Will not correct as goal to dry out
   brain edema. Drifting down, but now on hypertonic saline to bring Na
   back up
   - Goal sodium 150-160 to help cerebral edema
   - Hypertonic saline to achieve this
   - Na Q6H
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and variceal bleeding.
   - stable from UGI bleeding standpoint
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
    # Depression: hold meds given mental status
   # FEN: TFs - restarted, check for residuals
    # Access: CVL placed [**2180-12-21**], left IJ, a-line. 18g peripheral
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-25**] 09:59 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 04:00 PM
   18 Gauge - [**2180-12-24**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-26 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed overnight.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-12-25**] 12:28 PM
   Acyclovir - [**2180-12-26**] 03:59 AM
   Vancomycin - [**2180-12-26**] 08:21 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2180-12-26**] 06:38 AM
   Pantoprazole (Protonix) - [**2180-12-26**] 08:07 AM
   Other medications:
   Peridex, rifaximin, ursodiol, RISS, Keppra, lactulose, propofol,
   reglan, spironolactone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-26**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 111 (96 - 113) bpm
   BP: 132/76(94) {105/63(78) - 142/85(104)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 11 (8 - 16)mmHg
   Total In:
                                                                  4,828 mL
                                                                  1,773 mL
   PO:
   TF:
                                                                    581 mL
                                                                    419 mL
   IVF:
                                                                  3,807 mL
                                                                  1,194 mL
   Blood products:
   Total out:
                                                                  4,289 mL
                                                                  2,582 mL
   Urine:
                                                                  4,189 mL
                                                                  2,582 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    539 mL
                                                                   -809 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 210 (210 - 210) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 275
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.42/37/76.[**Numeric Identifier 126**]/23/0
   NIF: -19 cmH2O
   Ve: 8.2 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : Ventilated BS)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   90 K/uL
   142 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.5 mEq/L
   7 mg/dL
   121 mEq/L
   150 mEq/L
   35.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2180-12-23**]  09:20 AM
                             [**2180-12-23**]  06:07 PM
                             [**2180-12-23**]  10:07 PM
                             [**2180-12-24**]  03:47 AM
                             [**2180-12-24**]  10:47 AM
                             [**2180-12-24**]  10:59 AM
                             [**2180-12-24**]  10:36 PM
                             [**2180-12-25**]  04:09 AM
                             [**2180-12-26**]  03:25 AM
                             [**2180-12-26**]  03:47 AM
   WBC
   6.9
   6.5
   6.0
   6.7
   Hct
   35.6
   32.8
   33.1
   31.9
   33.9
   33.4
   35.1
   Plt
   77
   68
   78
   90
   Cr
   0.6
   0.6
   0.7
   TCO2
   23
   22
   25
   Glucose
   112
   125
   142
   Other labs: PT / PTT / INR:15.5/36.5/1.4, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR:  ETT, CVC in place.  Retrocardiac opacity.
   Microbiology: No new micro data.
   Assessment and Plan
   1) CEREBRAL EDEMA:  HSV encephalitis remains a possibility.  Head CT is
   stable and she appears to be interacting even more today.
     -Continue acyclovir empirically for HSV, holding off on LP due to
   cerebral edema.
     -Hypertonic saline to maintain sodium 150.
     -Serial head CT and neuro exams, will discuss with neurology
   regarding timing of next head CT.
     -Keppra for seizures.  EEG monitoring per epilepsy team.
     -Continue lactulose/rifaximin
   2) HEMATEMESIS:  Some clots from OGT over the weekend.  None recently
     -Continue to monitor Hct's through the day.
     -GI following.  Cont PPI.
   3) RESP FAILURE:  Though she has a MRSA pneumonia, her cerebral edema
   has also limited extubation.
     -PSV trial today with weaning as able.
     -Diurese today, goal CVP <6.
     -Continue vancomycin.
    4) CIRRHOSIS:
     -Continue lactulose, rifaxmin.
    5) NUTRITION:
     -Continue TF.
   Rest of plan per Resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-12-21**] 12:17 AM
   Multi Lumen - [**2180-12-21**] 04:00 PM
   18 Gauge - [**2180-12-24**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2180-12-27 07:58:00 Physician Resident Progress Note
Chief Complaint: cerebral edema
   resp failure
   GI bleed
   24 Hour Events:
   - neuro will d/c the continous EEG this AM
   - MRI brain: done overnight, not yet read
   - diuresed well with IV lasix; held midnight dose
   - vanco trough: 17.3
   - sats were down to 88%, but PO2 of 70 so no change in FI02
   - Na up to 155; decreased hypertonic saline to 15mL/hr
   - aline fell out, replaced
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-12-25**] 12:28 PM
   Vancomycin - [**2180-12-26**] 08:03 PM
   Acyclovir - [**2180-12-27**] 04:22 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-12-26**] 08:07 AM
   Furosemide (Lasix) - [**2180-12-27**] 06:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-27**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 88 (88 - 116) bpm
   BP: 125/71(92) {93/57(70) - 137/82(104)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (8 - 17)mmHg
   Total In:
                                                                  4,183 mL
                                                                    759 mL
   PO:
   TF:
                                                                    999 mL
                                                                    275 mL
   IVF:
                                                                  2,764 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                  6,761 mL
                                                                    330 mL
   Urine:
                                                                  5,861 mL
                                                                    330 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                 -2,578 mL
                                                                    429 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 334 (334 - 334) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/42/78.[**Numeric Identifier 181**]/27/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   right, Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli, No(t)
   Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   79 K/uL
   11.6 g/dL
   130 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   8 mg/dL
   120 mEq/L
   153 mEq/L
   33.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2180-12-24**]  03:47 AM
                             [**2180-12-24**]  10:47 AM
                             [**2180-12-24**]  10:59 AM
                             [**2180-12-24**]  10:36 PM
                             [**2180-12-25**]  04:09 AM
                             [**2180-12-26**]  03:25 AM
                             [**2180-12-26**]  03:47 AM
                             [**2180-12-26**]  08:18 PM
                             [**2180-12-27**]  03:43 AM
                             [**2180-12-27**]  03:52 AM
   WBC
   6.5
   6.0
   6.7
   5.3
   Hct
   33.1
   31.9
   33.9
   33.4
   35.1
   33.4
   Plt
   68
   78
   90
   79
   Cr
   0.6
   0.6
   0.7
   0.6
   TCO2
   22
   25
   29
   29
   Glucose
   112
   125
   142
   130
   Other labs: PT / PTT / INR:16.8/40.3/1.5, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: MRI head [**2180-12-26**]: pending
   Microbiology: [**2180-12-21**]: sputum with MRSA
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   Bright red blood lavaged from NG tube on [**2180-12-23**]
   # UGIB- bright red blood with clots lavaged from NG tube [**2180-12-24**].
   Concern for variceal bleed (had significant bleed which she was
   initially admitted to [**Hospital6 2762**] for, s/p banding x 2  13
   units PRBCs, 12 units FFP, 20 units PLTs, all at OSH.   GI aware of new
   bleeding, but felt not large volume.  Hemodynamically stable with
   stable Hct x days.
   - IV PPI [**Hospital1 7**]
   - flush Q6H
   - access: CVL and 18g peripheral
   - Has been stable so back to daily Hct checks
   - resumed TFs
   - Call liver if evidence of acute bleeding
   # Cerebral edema.  hepatic decompensation vs infectious
   - still can
t do LP to r/o meningitis due to risk of herniation, repeat
   CT head with unchanged edema
   - Neuro input appreciated
   - f/u read of MRI brain to characterize edema
   - hypertonic saline to maintaine Na to goal of 150
   - continue serial Na/OSM every 6 hours; goal Na 150 and Osm < 330
   - reserve use of mannitol in case evidence of herniation
   - continue keppra
   - Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis
   - peeled off CTX for coverage of bacterial meningitis - vanco continued
   for MRSA in sputum
   - continue lactulose/rifaxamin for encephalopathy.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Does have MRSA in sputum, ? PNA at left base.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.    Diuresed > 2L [**12-26**].
   - continue diuresis with IV lasix and PO spironolactone; goal > 1L
   negative daily
   - So far has not tolerated PS; cont AV ARDSNET ventilation but try PS
   daily
   - ABX: vanco (for MRSA in sputum [**2180-12-21**]- [**2180-12-28**])
   - VAP precautions, daily wake up, RSBI when appropriate
   - consider  paracentesis (large volume) to assist with her breathing
   but only if diuresis does not work
   # Hypernatremia.  Unclear etiology. Will not correct as goal to dry out
   brain edema. Drifting down, but now on hypertonic saline to bring Na
   back up
   - Goal sodium 150-160 to help cerebral edema
   - Hypertonic saline to achieve this
   - Na Q6H
   - need to discuss with neuro the course of this
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and variceal bleeding.
   - stable from UGI bleeding standpoint
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
    # Depression: hold meds given mental status
   # FEN: TFs - restarted, check for residuals
    # Access: CVL placed [**2180-12-21**], left IJ, a-line replaced [**2180-12-27**]. 18g
   peripheral
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-27**] 02:17 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   18 Gauge - [**2180-12-24**] 08:00 AM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-27 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continuous EEG discontinued.
   MRI done overnight, read pending.
   Diuresed well yesterday.
   A-line was dislodged when going to MRI-->new one placed.
   History obtained from Medical records
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-12-25**] 12:28 PM
   Acyclovir - [**2180-12-27**] 04:22 AM
   Vancomycin - [**2180-12-27**] 08:13 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2180-12-27**] 06:58 AM
   Pantoprazole (Protonix) - [**2180-12-27**] 08:38 AM
   Other medications:
   Peridex, rifaximin, ursodiol, RISS, lactulose, Reglan, keppra,
   spironolactone, hypertonic saline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-27**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 100 (88 - 116) bpm
   BP: 97/61(74) {93/57(70) - 142/82(104)} mmHg
   RR: 32 (14 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 12 (10 - 17)mmHg
   Total In:
                                                                  4,183 mL
                                                                  1,408 mL
   PO:
   TF:
                                                                    999 mL
                                                                    453 mL
   IVF:
                                                                  2,764 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                  6,761 mL
                                                                  1,890 mL
   Urine:
                                                                  5,861 mL
                                                                  1,890 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                 -2,578 mL
                                                                   -482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 334 (334 - 334) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.43/42/78.[**Numeric Identifier 181**]/27/2
   Ve: 9.8 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: at bases
   L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   79 K/uL
   130 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   8 mg/dL
   120 mEq/L
   150 mEq/L
   33.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2180-12-24**]  03:47 AM
                             [**2180-12-24**]  10:47 AM
                             [**2180-12-24**]  10:59 AM
                             [**2180-12-24**]  10:36 PM
                             [**2180-12-25**]  04:09 AM
                             [**2180-12-26**]  03:25 AM
                             [**2180-12-26**]  03:47 AM
                             [**2180-12-26**]  08:18 PM
                             [**2180-12-27**]  03:43 AM
                             [**2180-12-27**]  03:52 AM
   WBC
   6.5
   6.0
   6.7
   5.3
   Hct
   33.1
   31.9
   33.9
   33.4
   35.1
   33.4
   Plt
   68
   78
   90
   79
   Cr
   0.6
   0.6
   0.7
   0.6
   TCO2
   22
   25
   29
   29
   Glucose
   112
   125
   142
   130
   Other labs: PT / PTT / INR:16.8/40.3/1.5, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: MRI brain:  read pending
   CXR:  ETT/CVC in place.  Low lung volumes with less atelectasis at L
   base.
   Microbiology: No new culture data
   Assessment and Plan
   1) CEREBRAL EDEMA:  HSV encephalitis remains a possibility.  Head CT is
   stable and she appears to be interacting even more today.
     -F/u MRI read
     -Continue acyclovir empirically for HSV, holding off on LP due to
   cerebral edema.
     -Hypertonic saline to maintain sodium 150.
     -Keppra for seizures.
     -Continue lactulose/rifaximin
    2) HEMATEMESIS:  Some clots from OGT over the weekend.  None recently
     -Continue to monitor Hct's through the day.
     -GI following.  Cont PPI.
   3) RESP FAILURE:  Though she has a MRSA pneumonia, her cerebral edema
   has also limited extubation.  Also has known hepatopulmonary syndrome
     -PSV trial today with weaning as able.
     -Diurese today, goal CVP <6.
     -Continue vancomycin, course to end tomorrow (7 days)
    4) CIRRHOSIS:
     -Continue lactulose, rifaxmin.
    5) NUTRITION:
     -Continue TF.
   Rest of plan per Resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-27**] 02:17 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   18 Gauge - [**2180-12-24**] 08:00 AM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2180-12-28 07:56:00 Physician Resident Progress Note
Chief Complaint: Cerebral edema
   Resp failure
   GI bleed
   24 Hour Events:
   - MRI brain showed non-white matter cortical involvement, concerning
   for anoxic brain injury. The insular and temporal cortices are
   bilaterally and symmetrically involved which is c/w herpes
   encephalitis. No evidence of worsening edema or herniation.
   - Had repeat PSV trial, lasted 2:30 hours before became labored,
   tachypneic to 37
   - Na was low 150s, turned gtt down to 15cc/hr
   - more hypotensive after each lasix bolus, resolved spontaneously
   - to end course of vanc today for MRSA pna
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-12-25**] 12:28 PM
   Vancomycin - [**2180-12-27**] 08:08 PM
   Acyclovir - [**2180-12-28**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-12-27**] 08:00 PM
   Furosemide (Lasix) - [**2180-12-28**] 12:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-28**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 103 (96 - 110) bpm
   BP: 84/52(62) {80/48(60) - 142/76(97)} mmHg
   RR: 18 (16 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 9 (8 - 17)mmHg
   Total In:
                                                                  3,748 mL
                                                                  1,010 mL
   PO:
   TF:
                                                                  1,088 mL
                                                                    384 mL
   IVF:
                                                                  1,819 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  4,775 mL
                                                                  1,305 mL
   Urine:
                                                                  4,475 mL
                                                                  1,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,027 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 344 (344 - 394) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.45/43/68/30/4
   Ve: 10.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: BIPAP
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear.
   Diminished left base : )
   Abdominal:  Distended, Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to Verbal stimuli: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   72 K/uL
   10.9 g/dL
   134 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   115 mEq/L
   150 mEq/L
   31.2 %
   5.2 K/uL
        [image002.jpg]
                             [**2180-12-25**]  04:09 AM
                             [**2180-12-26**]  03:25 AM
                             [**2180-12-26**]  03:47 AM
                             [**2180-12-26**]  08:18 PM
                             [**2180-12-27**]  03:43 AM
                             [**2180-12-27**]  03:52 AM
                             [**2180-12-27**]  03:33 PM
                             [**2180-12-27**]  07:30 PM
                             [**2180-12-28**]  03:46 AM
                             [**2180-12-28**]  03:58 AM
   WBC
   6.0
   6.7
   5.3
   5.2
   Hct
   33.4
   35.1
   33.4
   31.2
   Plt
   78
   90
   79
   72
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   25
   29
   29
   31
   28
   31
   Glucose
   125
   142
   130
   134
   Other labs: PT / PTT / INR:16.3/38.4/1.5, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: MRI head [**12-26**]:
   1. Abnormal T2 and FLAIR signal seen bilaterally, most predominantly in
   the
   insular cortex. Abnormal signal is seen involving the medial and
   inferior
   temporal lobes. Findings raise concern for possible hepatic or viral
   encephalitis.
   2. Signal abnormality appears to involve more than just whit matter
   tracts,
   involving the insular cortex and cortex of the temporal lobes as well.
   This
   raises concern for more global, possibly anoxic injury.
   CXR: no sig change
   Microbiology: No new data
   [**12-21**]: sputum with MRSA
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   # UGIB- bright red blood with clots lavaged from NG tube [**2180-12-24**].
   Concern for variceal bleed (had significant bleed which she was
   initially admitted to [**Hospital6 2762**] for, s/p banding x 2  13
   units PRBCs, 12 units FFP, 20 units PLTs, all at OSH.   GI aware of new
   bleeding, but felt not large volume.  Hemodynamically stable with
   stable Hct x days.
   - IV PPI [**Hospital1 7**]
   - access: CVL and 18g peripheral
   - Has been stable so back to daily Hct checks
   - resumed TFs; no further bleeding
   - Call liver if evidence of acute bleeding
   # Cerebral edema.  hepatic decompensation vs infectious
   - MRI with evidence of grey-white matter cortical involvement,
   concerning for anoxic brain injury but location (symmetric
   temporal/insular) concerning for HSV encephalitis
   - Neuro input appreciated
   - hypertonic saline to maintaine Na to goal of 150; need to discuss
   duration of this with neuro
   - continue serial Na/OSM every 6 hours; goal Na 150 and Osm < 330
   - reserve use of mannitol in case evidence of herniation
   - continue keppra
   - Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis
   - peeled off CTX for coverage of bacterial meningitis - vanco continued
   for MRSA in sputum
   - continue lactulose/rifaxamin for encephalopathy.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Does have MRSA in sputum, ? PNA at left base.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.    Diuresed > 2L [**12-26**].
   - continue diuresis with lasix/spironolactone
 change to lasix gtt
   given borderline hypotension with lasix bolus, increase spironolactone
   to 100mg [**Hospital1 7**]
   - tolerated PS for 2.5 hours on [**12-27**]; try again daily and consider SBT
   when she does
   - ABX: vanco course completes today  (for MRSA in sputum [**2180-12-21**]-
   [**2180-12-28**])
   - VAP precautions, daily wake up, RSBI when appropriate
   - consider  paracentesis (large volume) to assist with her breathing
   but only if diuresis does not work after 2-3 days
   # Hypernatremia.  Iatragenic with hypertonic saline
   - Goal sodium 150-160 to help cerebral edema
   - Na Q6H
   - need to discuss with neuro the course of this
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and variceal bleeding.
   - stable from UGI bleeding standpoint
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
    # Depression: hold meds given mental status
   # FEN: TFs - restarted, check for residuals
    # Access: CVL placed [**2180-12-21**], left IJ, a-line replaced [**2180-12-27**]. 18g
   peripheral
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-27**] 10:11 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2180-12-28 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PSV trial yesterday:  Lasted 2.5 hours, but ultimately developed
   tachypnea
   Mild hypotension after lasix bolus dose, no intervention needed.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2180-12-25**] 12:28 PM
   Acyclovir - [**2180-12-28**] 04:00 AM
   Vancomycin - [**2180-12-28**] 09:42 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-12-27**] 08:00 PM
   Furosemide (Lasix) - [**2180-12-28**] 12:46 AM
   Other medications:
   peridex, rifaximin, ursodiol, RISS, lactulose, Reglan, keppra,
   spironolactone, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-28**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 100 (96 - 110) bpm
   BP: 115/66(83) {80/48(60) - 129/76(94)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 9 (8 - 17)mmHg
   Total In:
                                                                  3,748 mL
                                                                  1,624 mL
   PO:
   TF:
                                                                  1,088 mL
                                                                    530 mL
   IVF:
                                                                  1,819 mL
                                                                    844 mL
   Blood products:
   Total out:
                                                                  4,775 mL
                                                                  1,385 mL
   Urine:
                                                                  4,475 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,027 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 344 (344 - 394) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/43/68/30/4
   Ve: 10 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : Ventilated BS, Diminished:
   Diminished bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   72 K/uL
   134 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   115 mEq/L
   150 mEq/L
   31.2 %
   5.2 K/uL
        [image002.jpg]
                             [**2180-12-25**]  04:09 AM
                             [**2180-12-26**]  03:25 AM
                             [**2180-12-26**]  03:47 AM
                             [**2180-12-26**]  08:18 PM
                             [**2180-12-27**]  03:43 AM
                             [**2180-12-27**]  03:52 AM
                             [**2180-12-27**]  03:33 PM
                             [**2180-12-27**]  07:30 PM
                             [**2180-12-28**]  03:46 AM
                             [**2180-12-28**]  03:58 AM
   WBC
   6.0
   6.7
   5.3
   5.2
   Hct
   33.4
   35.1
   33.4
   31.2
   Plt
   78
   90
   79
   72
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   25
   29
   29
   31
   28
   31
   Glucose
   125
   142
   130
   134
   Other labs: PT / PTT / INR:16.3/38.4/1.5, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: MRI brain:  Non-white matter cortical signalling in the
   temporal lobes B/L.
   CXR: ETT about 2cm from carina, CVC in place.  Retrocardiac opacity
   Assessment and Plan
   1) CEREBRAL EDEMA:  HSV encephalitis remains a possibility.  MRI
   suggestive of HSV vs edema related to liver disease but also some
   question of hypoxic injury
      -Continue acyclovir empirically for HSV, holding off on LP due to
   cerebral edema.
      -Hypertonic saline to maintain sodium 150.  Will discuss with neuro
   how long this is effective.
      -Keppra for seizures.
      -Continue lactulose/rifaximin
   2) HEMATEMESIS:  Some clots from OGT over the weekend.  None recently
      -Continue to monitor Hct's
      -GI following.  Cont PPI.
    3) RESP FAILURE:  Though she has a MRSA pneumonia, her cerebral edema
   has also limited extubation.  Also has known hepatopulmonary syndrome
     -Continue to attempt PSV and wean settings as able.
     -Diurese today, goal CVP <6.  Will use lasix drip to avoid
   hypotension.
     -Vancomycin course for MRSA PNA to end after today.
    4) CIRRHOSIS:
     -Continue lactulose, rifaxmin.
    5) NUTRITION:
     -Continue TF.
   Rest of plan per Resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-28**] 08:11 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2180-12-29 07:55:00 Physician Resident Progress Note
Chief Complaint: cerebral edema
   resp failure
   gi bleed
   24 Hour Events:
   -- had 4-5 minutes of SVT at ~6:30; SBP held (110-130's); gave
   metoprolol 5 mg IV x 3; was about to give adenosine when rhythm broke.
   This occured a couple minutes after pt was turned on side for cleaning.
   -- pt was given propofol bolus and started back on AC during SVT
   -- emailed neuro RE: Na checks; [**Hospital1 7**] ok, though did frequent electrolyte
   checks o/n b/c of diuresis and SVT
   History obtained from Patient
   Allergies:
   History obtained from PatientNadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-28**] 08:19 PM
   Acyclovir - [**2180-12-29**] 04:54 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2180-12-28**] 06:20 PM
   Pantoprazole (Protonix) - [**2180-12-28**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-29**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 86 (83 - 175) bpm
   BP: 96/54(68) {76/45(56) - 137/79(97)} mmHg
   RR: 17 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 9 (9 - 31)mmHg
   Total In:
                                                                  3,860 mL
                                                                  1,023 mL
   PO:
   TF:
                                                                    916 mL
                                                                    336 mL
   IVF:
                                                                  2,345 mL
                                                                    517 mL
   Blood products:
   Total out:
                                                                  3,845 mL
                                                                    447 mL
   Urine:
                                                                  3,845 mL
                                                                    447 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                    576 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 505 (505 - 513) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.46/45/66/31/6
   Ve: 7 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : on
   right, Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli, No(t)
   Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   66 K/uL
   10.8 g/dL
   117 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.9 mEq/L
   10 mg/dL
   113 mEq/L
   147 mEq/L
   31.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2180-12-27**]  03:43 AM
                             [**2180-12-27**]  03:52 AM
                             [**2180-12-27**]  03:33 PM
                             [**2180-12-27**]  07:30 PM
                             [**2180-12-28**]  03:46 AM
                             [**2180-12-28**]  03:58 AM
                             [**2180-12-28**]  05:10 PM
                             [**2180-12-28**]  06:47 PM
                             [**2180-12-29**]  05:17 AM
                             [**2180-12-29**]  05:42 AM
   WBC
   5.3
   5.2
   4.6
   Hct
   33.4
   31.2
   31.6
   Plt
   79
   72
   66
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   29
   31
   28
   31
   31
   33
   Glucose
   130
   134
   105
   117
   Other labs: PT / PTT / INR:16.5/39.1/1.5, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR
   Microbiology: No new Data, Sputum [**12-21**] with MRSA
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
    # SVT
   - broke with metoprolol, held BP
   - continue to monitor
   - monitor electrolytes carefully today
   # Cerebral edema.  hepatic decompensation vs infectious vs anoxic brain
   injury after hypotensive when presented to OSH with variceal bleed.
   - MRI with evidence of grey-white matter cortical involvement,
   concerning for anoxic brain injury but location (symmetric
   temporal/insular) concerning for HSV encephalitis
   - Neuro input appreciated
   - hypertonic saline to maintaine Na to goal of 150; need to discuss
   duration of this with neuro
   - continue serial Na/OSM every 6 hours; goal Na 150 and Osm < 330
   - reserve use of mannitol in case evidence of herniation
   - continue keppra
   - Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis; course is 14-21 days ([**12-21**] - )
   - peeled off CTX for coverage of bacterial meningitis - vanco continued
   for MRSA in sputum
   - continue lactulose/rifaxamin for encephalopathy.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Does have MRSA in sputum, ? PNA at left base.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.    On lasix gtt
   - continue diuresis with lasix/spironolactone today as BP tolerates
   - tolerated PS until had SVT overnight; re-trial today
   - ABX: vanco course completed (for MRSA in sputum [**2180-12-21**]- [**2180-12-28**])
   - VAP precautions, daily wake up, RSBI when appropriate
   - consider  paracentesis (large volume) to assist with her breathing
   but only if diuresis does not work after 2-3 days
   # Hypernatremia.  Iatragenic with hypertonic saline
   - Goal sodium 150-160 to help cerebral edema
   - Na Q6H
   - need to discuss with neuro the course of this
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and massive variceal
   bleeding at [**Hospital1 **] , s/p banding x 2  13 units PRBCs, 12 units FFP, 20
   units PLTs there.  Here,  bright red blood with clots lavaged from NG
   tube [**2180-12-24**].   GI aware of new bleeding, but felt not large volume.
   Hemodynamically stable with stable Hct x days.
   - daily Hct
   - IV PPI [**Hospital1 7**]
   - stable from UGI bleeding standpoint
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
    # Depression: hold meds given mental status
   # FEN: TFs - restarted, check for residuals
    # Access: CVL placed [**2180-12-21**], left IJ, a-line replaced [**2180-12-27**]. 18g
   peripheral
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-29**] 01:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-29 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   SVT overnight.  Stable HD.  Reverted to SR after metoprolol x 3.
   Placed on A/C at that point.  Lasix drip held overnight due to mild
   hypotension.
   Placed back on PSV this morning.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-28**] 08:19 PM
   Acyclovir - [**2180-12-29**] 04:54 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Metoprolol - [**2180-12-28**] 06:20 PM
   Pantoprazole (Protonix) - [**2180-12-29**] 07:57 AM
   Other medications:
   rifaximin, ursodiol, RISS, reglan, keppra, aldactone, lactulose,
   hypertonic saline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-29**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 97 (83 - 175) bpm
   BP: 104/57(73) {76/45(56) - 137/79(97)} mmHg
   RR: 28 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 13 (9 - 31)mmHg
   Total In:
                                                                  3,860 mL
                                                                  1,456 mL
   PO:
   TF:
                                                                    916 mL
                                                                    500 mL
   IVF:
                                                                  2,345 mL
                                                                    726 mL
   Blood products:
   Total out:
                                                                  3,845 mL
                                                                  1,520 mL
   Urine:
                                                                  3,845 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 375 (375 - 539) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.47/44/74/31/7
   Ve: 8 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   66 K/uL
   117 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.5 mEq/L
   10 mg/dL
   113 mEq/L
   148 mEq/L
   31.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2180-12-27**]  03:52 AM
                             [**2180-12-27**]  03:33 PM
                             [**2180-12-27**]  07:30 PM
                             [**2180-12-28**]  03:46 AM
                             [**2180-12-28**]  03:58 AM
                             [**2180-12-28**]  05:10 PM
                             [**2180-12-28**]  06:47 PM
                             [**2180-12-29**]  05:17 AM
                             [**2180-12-29**]  05:42 AM
                             [**2180-12-29**]  09:49 AM
   WBC
   5.2
   4.6
   Hct
   31.2
   31.6
   Plt
   72
   66
   Cr
   0.6
   0.7
   0.7
   TCO2
   29
   31
   28
   31
   31
   33
   33
   Glucose
   134
   105
   117
   Other labs: PT / PTT / INR:16.5/39.1/1.5, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR:  Low lung volumes. CVC in place.  ETT about 1.8cm from
   carina. Retrocardiac opacity.
   Microbiology: No new micro
   Assessment and Plan
   1) CEREBRAL EDEMA:  HSV encephalitis remains a possibility.  MRI
   suggestive of HSV vs edema related to liver disease but also some
   question of hypoxic injury
     -Continue acyclovir empirically for HSV, holding off on LP due to
   cerebral edema.
     -Per neuro, reasonable to keep sodium above 140 at this point.  D/C
   hypertonic saline
     -Keppra for seizures.
     -Continue lactulose/rifaximin
    2) RESP FAILURE:  Though she had a MRSA pneumonia, her cerebral edema
   has also limited extubation.  Also has known hepatopulmonary syndrome
     -SBT today
     -Continue diuresis as below.  Will use lasix drip to avoid
   hypotension.
     -Vancomycin course now completed
   3) SVT:  Possibly related to diuresis
     -Gentle diuresis
     -Replete lytes
     -Adenosine PRN
   4) HEMATEMESIS:  Some clots from OGT over last weekend.  None recently
     -Continue to monitor Hct's
     -GI following.  Cont PPI.
    5) CIRRHOSIS:
     -Continue lactulose, rifaxmin.
    6) NUTRITION:
     -Continue TF.
   Rest of plan per Resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2180-12-30 07:25:00 Physician Resident Progress Note
Chief Complaint: UGIB
   Resp failure
   Cerebral Edema
   24 Hour Events:
   - stopped hypertonic saline
   - tolerating PS
   - failed SBT (tachypeic)
   - u/a negative, culture sent for cloudy urine
   History obtained from Patient
   Allergies:
   History obtained from PatientNadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-28**] 08:19 PM
   Acyclovir - [**2180-12-30**] 03:50 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-12-29**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-30**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 102 (87 - 109) bpm
   BP: 115/64(80) {97/55(69) - 119/73(88)} mmHg
   RR: 22 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 23 (6 - 23)mmHg
   Total In:
                                                                  2,987 mL
                                                                    484 mL
   PO:
   TF:
                                                                  1,153 mL
                                                                     58 mL
   IVF:
                                                                  1,204 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  4,035 mL
                                                                  1,130 mL
   Urine:
                                                                  4,035 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,048 mL
                                                                   -646 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 342 (310 - 539) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 15 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: 7.47/44/74/32/7
   Ve: 9.3 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   68 K/uL
   11.3 g/dL
   107 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.2 mEq/L
   10 mg/dL
   106 mEq/L
   146 mEq/L
   32.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2180-12-27**]  03:33 PM
                             [**2180-12-27**]  07:30 PM
                             [**2180-12-28**]  03:46 AM
                             [**2180-12-28**]  03:58 AM
                             [**2180-12-28**]  05:10 PM
                             [**2180-12-28**]  06:47 PM
                             [**2180-12-29**]  05:17 AM
                             [**2180-12-29**]  05:42 AM
                             [**2180-12-29**]  09:49 AM
                             [**2180-12-30**]  03:53 AM
   WBC
   5.2
   4.6
   6.6
   Hct
   31.2
   31.6
   32.5
   Plt
   72
   66
   68
   Cr
   0.6
   0.7
   0.7
   0.7
   TCO2
   31
   28
   31
   31
   33
   33
   Glucose
   134
   105
   117
   107
   Other labs: PT / PTT / INR:15.8/38.2/1.4, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR [**12-29**]:
   IMPRESSION: Endotracheal tube at least 1.8 cm above the level of the
   carina.
   Stable left retrocardiac opacity and left pleural effusion consistent
   with
   atelectasis, however, pneumonia cannot be excluded.
   Microbiology: Urine [**12-29**]: pending
   Sputum [**12-21**]: MRSA
   Blood 1/8: NGTD
   Cath tip [**12-21**]: NGTD
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
    # SVT
   - broke with metoprolol, held BP
   - no further evidence on monitor
   - monitor electrolytes [**Hospital1 7**] while on lasix
   # Cerebral edema.  hepatic decompensation vs infectious vs anoxic brain
   injury after hypotensive when presented to OSH with variceal bleed.
   - MRI with evidence of grey-white matter cortical involvement,
   concerning for anoxic brain injury but location (symmetric
   temporal/insular) concerning for HSV encephalitis
   - Neuro input appreciated
   - repeat CT head [**12-31**]
   - goal Na > 140 given we are out of acute period
   - stop hypertonic saline
   - serial Na [**Hospital1 7**]; goal Na > 140 per neuro
   - reserve use of mannitol in case evidence of herniation
   - continue keppra
   - Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis; course is 14-21 days ([**12-21**] - )
   - peeled off CTX for coverage of bacterial meningitis - vanco continued
   for MRSA in sputum
   - continue lactulose/rifaxamin for encephalopathy.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Had MRSA in sputum, ? PNA at left base.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.    On lasix gtt
   - continue diuresis with lasix/spironolactone today as BP tolerates
   - tolerated PS , but MS still poor; defer SBT today
   - ABX: vanco course completed (for MRSA in sputum [**2180-12-21**]- [**2180-12-28**])
   - VAP precautions, daily wake up, RSBI when appropriate
   - consider  paracentesis (large volume) to assist with her breathing
   but only if diuresis does not work after 2-3 days
   # Hypernatremia.  Iatragenic with hypertonic saline
   - Goal sodium > 140 now that acute period has passed
   - Na [**Hospital1 7**]
   - stopped  hypertonic saline
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and massive variceal
   bleeding at [**Hospital3 1959**] Hosp , s/p banding x 2 and 13 units PRBCs, 12
   units FFP, 20 units PLTs there.  Here,  bright red blood with clots
   lavaged from NG tube [**2180-12-24**].   GI aware of new bleeding, but felt not
   large volume.  Hemodynamically stable with stable Hct x days.
   - daily Hct
   - IV PPI [**Hospital1 7**]
   - stable from UGI bleeding standpoint
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
    # Depression: hold meds given mental status
   # FEN: TFs , hold for possible extubation
    # Access: CVL placed [**2180-12-21**], left IJ, a-line replaced [**2180-12-27**]. 18g
   peripheral
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-30 11:15:00 Physician Attending Progress Note
Chief Complaint: altered mental status [**1-15**] cerebral edema, VAP.
   HPI: 49yo with HCV/Cirrhosis, with hepatopulm syndrome. Admit to OSH
   with hematemesis, intubated for airway protection, complicated by MRSA
   VAP. Course c/b seizure --> with cerebral edema in bitemporal pattern
   on CT.  ([**1-15**] FHF vs HSV, on acyclovir; no LP [**1-15**] concerns of
   herniation)
   24 Hour Events:
   - Diuresed -1L
   - Tolerating PS 10/5; failed SBT yesterday due to tachypnea.
   - Mental status improving slowly.
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-28**] 08:19 PM
   Acyclovir - [**2180-12-30**] 03:50 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-12-30**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-30**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.8
   HR: 101 (97 - 109) bpm
   BP: 106/60(77) {97/55(69) - 126/77(94)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 11 (6 - 23)mmHg
   Total In:
                                                                  2,987 mL
                                                                    694 mL
   PO:
   TF:
                                                                  1,153 mL
                                                                     58 mL
   IVF:
                                                                  1,204 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                  4,035 mL
                                                                  2,090 mL
   Urine:
                                                                  4,035 mL
                                                                  2,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,048 mL
                                                                 -1,396 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (310 - 463) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Well nourished, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   68 K/uL
   107 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.2 mEq/L
   10 mg/dL
   106 mEq/L
   146 mEq/L
   32.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2180-12-27**]  03:33 PM
                             [**2180-12-27**]  07:30 PM
                             [**2180-12-28**]  03:46 AM
                             [**2180-12-28**]  03:58 AM
                             [**2180-12-28**]  05:10 PM
                             [**2180-12-28**]  06:47 PM
                             [**2180-12-29**]  05:17 AM
                             [**2180-12-29**]  05:42 AM
                             [**2180-12-29**]  09:49 AM
                             [**2180-12-30**]  03:53 AM
   WBC
   5.2
   4.6
   6.6
   Hct
   31.2
   31.6
   32.5
   Plt
   72
   66
   68
   Cr
   0.6
   0.7
   0.7
   0.7
   TCO2
   31
   28
   31
   31
   33
   33
   Glucose
   134
   105
   117
   107
   Other labs: PT / PTT / INR:15.8/38.2/1.4, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR- ETT 3.2cm above carina. L. hemidiaphragm now visible.
   Small lung volumes.
   Assessment and Plan
   1. Neuro-
      a) Still with altered mental status
          - Continue Lactulose
          - Continue 2 week course Acyclovir for ? HSV encephalitis.
          - Cerebral edema- continue diuresis, no need to keep Na high
   anymore per neuro.   Will reassess edema by checking head
              CT tomorrow given pt being diuresed and chance of decreased
   CPP.
   2) Pulm- on PS 10/5 with Vt= 450, Crs>80
       - No plans to extubate given mental status, so will leave on PS
       - Continue diuresis
       - [**Month (only) 51**] need to do paracentesis prior to extubation
   3) CV- BP stable
   4) GI- liver enzymes stable. continue lactulose, on rifaximin
   5) Renal- TBB -1L. recheck lytes this afternoon.
   6) Heme- crit stable.
        pneumaboots for DVt prophy
   7) ID- completed course of Vanc for MRSA VAP.
            Low grade fever; will obtain blood cultures and sputum
   cultures today.
   8) Endo- following glucos
   9) ICU-  Access= R. IJ --> will attempt to get peripherals.
                 A-line on Right.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  PPI
   VAP:  head of bed at 45 degrees
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes, patient is critically ill

2180-12-31 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - mental status felt too poor to be a candidate for extubation, so no
   SBT attempted; reportedly no gag reflex this morning, though does cough
   to deep suction
   - diuresed to daily goal on lasix gtt
   - ordered for repeat surveillence head imaging today
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-28**] 08:19 PM
   Acyclovir - [**2180-12-31**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-12-30**] 08:01 AM
   Other medications:
   Flowsheet Data as of  [**2180-12-31**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 103 (95 - 107) bpm
   BP: 106/59(73) {77/47(59) - 128/77(94)} mmHg
   RR: 23 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 6 (6 - 15)mmHg
   Total In:
                                                                  2,123 mL
                                                                    862 mL
   PO:
   TF:
                                                                    658 mL
                                                                    365 mL
   IVF:
                                                                    775 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  3,865 mL
                                                                    935 mL
   Urine:
                                                                  3,465 mL
                                                                    635 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,742 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (324 - 412) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117 (with proprofol off x 1 hour)
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///32/
   Ve: 7.2 L/min
   No recent blood gases
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: + BS, Soft, Non-tender, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Opens eyes to voice; Follows simple commands of hand
   squeezing though weakly and with a delayed response;  moves all limbs
   Labs / Radiology
   58 K/uL
   11.0 g/dL
   130 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.4 mEq/L
   9 mg/dL
   104 mEq/L
   144 mEq/L
   31.4 %
   4.6 K/uL
        [image002.jpg]
                             [**2180-12-27**]  07:30 PM
                             [**2180-12-28**]  03:46 AM
                             [**2180-12-28**]  03:58 AM
                             [**2180-12-28**]  05:10 PM
                             [**2180-12-28**]  06:47 PM
                             [**2180-12-29**]  05:17 AM
                             [**2180-12-29**]  05:42 AM
                             [**2180-12-29**]  09:49 AM
                             [**2180-12-30**]  03:53 AM
                             [**2180-12-31**]  05:14 AM
   WBC
   5.2
   4.6
   6.6
   4.6
   Hct
   31.2
   31.6
   32.5
   31.4
   Plt
   72
   66
   68
   58
   Cr
   0.6
   0.7
   0.7
   0.7
   0.8
   TCO2
   28
   31
   31
   33
   33
   Glucose
   134
   105
   117
   107
   130
   Other labs: PT / PTT / INR:15.5/39.0/1.4,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   RADIOLOGY:
   [**2180-12-31**] CXR: pending
   MICROBIOLOGY:
   [**2180-12-30**] BCx x 2: NGTD
   [**2180-12-29**] UCx: negative
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   # MS, Cerebral edema.  hepatic decompensation vs infectious vs anoxic
   brain injury after hypotensive when presented to OSH with variceal
   bleed.  MRI with evidence of grey-white matter cortical involvement,
   concerning for anoxic brain injury but location (symmetric
   temporal/insular) concerning for HSV encephalitis.   Peeled off CTX for
   coverage of bacterial meningitis - vanco continued for MRSA in sputum
   (now completed).
   - Neuro input appreciated
   - will not do repeat head CT today given continued (but slow) MS
   improvement w/o evidence of worsening
   - goal Na > 140 given we are out of acute period
   - serial Na [**Hospital1 7**]; goal Na > 140 per neuro
   - reserve use of mannitol in case evidence of herniation
   - continue keppra PO
 t/c IV formulation if MS
   - Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis; course is 14-21 days (d1 = [**12-21**])
   - continue lactulose/rifaxamin for encephalopathy.
   -- will d/c Reglan and propofol as may be contributing to poor MS.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Had MRSA in sputum, ? PNA at left base.  At baseline has
   hepatopulmonary syndrome with PaO2 in the 60s.    On lasix gtt.  ABX:
   vanco course completed (for MRSA in sputum [**2180-12-21**]- [**2180-12-28**]).  Deferring
   paracenetesis as diuresing well and compliance measured at ~70 on [**12-31**]
   which is not significantly impaired.
   - continue diuresis with lasix/spironolactone today as BP tolerates
   - will attempt SBT during rounds; possible extubation today
   - VAP precautions, daily wake up, RSBI when appropriate
   -- Combivent inhalers Q4 hours
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding (no evidence currently)
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and massive variceal
   bleeding at [**Hospital3 1959**] Hosp , s/p banding x 2 and 13 units PRBCs, 12
   units FFP, 20 units PLTs there.  Here,  bright red blood with clots
   lavaged from NG tube [**2180-12-24**].   GI aware of new bleeding, but felt not
   large volume.  Hemodynamically stable with stable Hct x days.
   - daily Hct
   - will change IV PPI [**Hospital1 7**] to PO PPI QD; no evidence of ongoing GI
   bleeding
   - stable from UGI bleeding standpoint
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - trend transaminases, Tbili, albumin, coags
    # Depression: hold meds given mental status
   # FEN: TFs , hold for possible extubation
    # Access: CVL placed [**2180-12-21**], left IJ, a-line replaced [**2180-12-27**]. 18g
   peripheral
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition: TF with Fiber Source at 50 cc/hr
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  attempting extubation today
   Code status: Full code
   Disposition:ICU

2180-12-31 08:07:00 Physician Attending Progress Note
Chief Complaint: HCV Cirrhosis with Variceal bleeding, hepatic
   encephalopathy, VAP.
   HPI:
   49yo with HepC Cirrhosis with grade 1 gastric varices, GAVE, ascites,
   encephalopathy and hepatopulmonary syndrome, Admit to OSH [**12-14**] with
   esophageal variceal bleed requiring 13u PRBC, 20u Plts, and 12 u FFP.
   Pt with hypovolemic shock.  Intubated for airway protection,
   complicated by MRSA VAP. Hospital course complicated by seizure [**12-19**],
   head CT c/w parietal bitemporal edema. Pt transferred to [**Hospital1 19**]. Has
   been treated with hypertonic saline, mannitol, lactulose. Also empiric
   therapy for HSV encephalitis (LP deferred).
   24 Hour Events:
   - improving mental status
   - Diuresed 2L
   - Remains on PS 10/5, 40%
   - Suction small amounts q4hr
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-28**] 08:19 PM
   Acyclovir - [**2180-12-31**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-12-30**] 08:01 AM
   Other medications:
   Lasix gtt @ 8mg/hr
   Spironolactone 100mg po bid
   Lactulose 30mg po qid
   Rifaximin 400mg tid
   Ursodiol 200mg tid
   Reglan 5 IV q6hr
   Protonix 40 IV q12h
   Keppra 1000mg po q12h
   Nystatin 5ccpo q6hr
   Chlorhexidine.
   Combivent MDI q4hr
   FiberSource at 50cc/hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-31**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 103 (95 - 107) bpm
   BP: 105/58(73) {77/47(59) - 128/77(94)} mmHg
   RR: 22 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 6 (6 - 15)mmHg
   Total In:
                                                                  2,123 mL
                                                                    885 mL
   PO:
   TF:
                                                                    658 mL
                                                                    383 mL
   IVF:
                                                                    775 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                  3,865 mL
                                                                  1,085 mL
   Urine:
                                                                  3,465 mL
                                                                    785 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,742 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (324 - 412) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///32/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, somnolent , but following commands
   Lungs: crackles on side
   Distant heart sounds tachy, no m/r/g
   Abd distended but soft NTND NBS
   LE warm and dry
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   58 K/uL
   130 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.4 mEq/L
   9 mg/dL
   104 mEq/L
   144 mEq/L
   31.4 %
   4.6 K/uL
        [image002.jpg]
                             [**2180-12-27**]  07:30 PM
                             [**2180-12-28**]  03:46 AM
                             [**2180-12-28**]  03:58 AM
                             [**2180-12-28**]  05:10 PM
                             [**2180-12-28**]  06:47 PM
                             [**2180-12-29**]  05:17 AM
                             [**2180-12-29**]  05:42 AM
                             [**2180-12-29**]  09:49 AM
                             [**2180-12-30**]  03:53 AM
                             [**2180-12-31**]  05:14 AM
   WBC
   5.2
   4.6
   6.6
   4.6
   Hct
   31.2
   31.6
   32.5
   31.4
   Plt
   72
   66
   68
   58
   Cr
   0.6
   0.7
   0.7
   0.7
   0.8
   TCO2
   28
   31
   31
   33
   33
   Glucose
   134
   105
   117
   107
   130
   Other labs: PT / PTT / INR:15.5/39.0/1.4, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: AP [**12-31**]= Low volumes. ETT= 2.5cm above carina.  No
   infiltrates; ? interstitial thickening.
   Microbiology: Blood 1/17 x 2= NGTD
   Urine [**12-29**]= NGTD
   Assessment and Plan
   1. Neuro-
        a) Altered mental status multifactorial- hepatic encephalopathy, ?
   HSV encephalitis, ICU delirium.  MRI [**12-26**] also raises
             question of anoxic brain injury.  Mental status improving
   though.
             - Will defer head Ct given improved mental status.
             - Check NH3 as rough indicator of efficacy of lactulose
             - Continue rifaximin
             - Continue Acyclovir for ? encephalitis. (Day #1= 1/8
 [**1-11**])
        b) D/c all sedation and reglan.
   2. GI/ Hepatology
        a) npo for extubation
        b) On lactulose, rifaximin
        c) SBP prophylaxis- will start Norfloxacin
   3. Resp-
       a) Continues on mechanical ventilation given impaired mental
   status- ETT day #18
       b) Patient with improved mental status and good cough
              - Crs~70, despite ascites
              - SBT today and plan for extubation. Will need help with IS
   and secretion clearance post extubation
   4. CV- maintaining acceptable MAPs on midodrine
   5. Renal-
       a) with resp alkalosis, c.w underlying liver disease
       b) Continue diuresis
            - check pm lytes
   6. Heme- no issues
   7. ID- SBP prophy
         a) continue 2 week course acyclovir
   8. Endo- sugars stable
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-30**] 12:00 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:   Attempted to place peripherals yesterday  with no success.
   Will diurese and attempt peripherals tomorrow.
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes

2181-01-01 07:53:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   Encephalopathy
   Resp failure
   24 Hour Events:
   -- extubaed on am rounds; post-extubation ABG unchanged
   -- have been using the MIE machine
   -- changed from IV PPI to lansoprazole PO via NG tube
   -- put on standing nebs
   -- diuresed further; decided to hold on paracentesis because compliance
   measured on PS prior to extubation was 70
   -- lots of ABG's overnight b/c concern that O2sats were upper 80's/low
   90's; reassured that PaO2 always in upper 60's or higher; always looked
   comfortable w/ NAD
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-1**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-1**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 104 (100 - 120) bpm
   BP: 81/47(59) {81/41(54) - 124/72(89)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 3 (1 - 10)mmHg
   Total In:
                                                                  1,654 mL
                                                                    216 mL
   PO:
   TF:
                                                                    150 mL
   IVF:
                                                                  1,054 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  5,395 mL
                                                                    845 mL
   Urine:
                                                                  3,645 mL
                                                                    345 mL
   NG:
   Stool:
                                                                  1,750 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                 -3,741 mL
                                                                   -629 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 337 (337 - 440) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 92%
   ABG: 7.47/50/74/32/10
   Ve: 8.4 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   right, Diminished: bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   54 K/uL
   10.8 g/dL
   99 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.5 mEq/L
   10 mg/dL
   102 mEq/L
   143 mEq/L
   30.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2180-12-29**]  05:42 AM
                             [**2180-12-29**]  09:49 AM
                             [**2180-12-30**]  03:53 AM
                             [**2180-12-31**]  05:14 AM
                             [**2180-12-31**]  10:19 AM
                             [**2180-12-31**]  01:54 PM
                             [**2180-12-31**]  10:40 PM
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
   WBC
   6.6
   4.6
   5.2
   Hct
   32.5
   31.4
   30.6
   Plt
   68
   58
   54
   Cr
   0.7
   0.8
   0.8
   TCO2
   33
   33
   37
   38
   38
   40
   37
   Glucose
   107
   130
   99
   Other labs: PT / PTT / INR:15.5/39.0/1.4, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR
   Microbiology: Blood 1/17 x 2 - NGTD
   Urine [**12-29**]: No growth
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   # MS, Cerebral edema.  hepatic decompensation vs infectious vs anoxic
   brain injury after hypotensive when presented to OSH with variceal
   bleed.  MRI with evidence of grey-white matter cortical involvement,
   concerning for anoxic brain injury but location (symmetric
   temporal/insular) concerning for HSV encephalitis.   Peeled off CTX for
   coverage of bacterial meningitis - vanco continued for MRSA in sputum
   (now completed).
   - Neuro input appreciated
   - no need for repeat CT head
 MS improving
   - goal Na > 140 given we are out of acute period
   - serial Na [**Hospital1 7**]; goal Na > 140 per neuro
   - no need for mannitol
   - continue keppra for seizures prophylaxis
   - Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis; course is 14-21 days (d1 = [**12-21**])
   - continue lactulose/rifaxamin for encephalopathy.
   - trend ammonia
   - d/c'd Reglan and propofol as may be contributing to poor MS.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Had MRSA VAP, completed treatment with vancomycin ([**12-20**]- [**2180-12-28**]).  At
   baseline has hepatopulmonary syndrome with PaO2 in the 60s.    On lasix
   gtt.  Deferring paracenetesis as diuresing well and compliance measured
   at ~70 on [**12-31**] which is not significantly impaired.
   - continue diuresis with lasix/spironolactone today as BP tolerates;
   goal 1-2 liters negative
   -  extubated [**2180-12-31**]
   - Combivent nebs Q4 hours
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding (no evidence currently)
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and massive variceal
   bleeding at [**Hospital3 1959**] Hosp , s/p banding x 2 and 13 units PRBCs, 12
   units FFP, 20 units PLTs there.  Here,  bright red blood with clots
   lavaged from NG tube [**2180-12-24**].   GI aware of new bleeding, but felt not
   large volume.  Hemodynamically stable with stable Hct x days.
   - daily Hct
   - changed IV PPI [**Hospital1 7**] to PO PPI QD; no evidence of ongoing GI bleeding
   - stable from UGI bleeding standpoint
   - restart propranolol
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - no need for SBP ppx per liver (protein in ascetic fluid > 1)
   - trend transaminases, Tbili, albumin, coags
    # Depression: hold meds given mental status
   # FEN: TFs
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition: TF with Fiber Source at 50 cc/hr
   Lines:  Multi Lumen - [**2180-12-21**] 04:00 PM and  Arterial Line -
   [**2180-12-27**] 01:42 AM
   Prophylaxis:   DVT: Boots;  Stress ulcer: PPI
   VAP:  extubated
   Code status: Full code
   Disposition:ICU

2181-01-01 12:49:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   49yo with HCV- cirrhosis admit with variceal bleed, intubated for
   airway protection, c/b MRSA VAP. Course c/b seizure [**1-15**] cerebral edema
   (2/2hepatic  encephalopathy vs. HSV encephalitis).  Now extubated,
   mental state improving slowly.
   24 Hour Events:
   - Extubated yesterday; SpO2 remains high 80%s (c/w hepatopulmonary
   syndrome).
   - MAPs stable.
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-1**] 12:00 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Lactulose 30mg q6hr
   Rifaximin 400mg tid
   Ursodiol 300mg [**Hospital1 **]
   ISS
   Keppra 100mg q12hr
   Aldactone 100mg [**Hospital1 **]
   Albuterol /Atrovent q4hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-1**] 12:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 97 (97 - 120) bpm
   BP: 90/54(67) {81/41(54) - 121/66(83)} mmHg
   RR: 20 (18 - 39) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 303 (1 - 303)mmHg
   Total In:
                                                                  1,654 mL
                                                                    643 mL
   PO:
   TF:
                                                                    150 mL
   IVF:
                                                                  1,054 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                  5,395 mL
                                                                  2,145 mL
   Urine:
                                                                  3,645 mL
                                                                  1,645 mL
   NG:
   Stool:
                                                                  1,750 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                 -3,741 mL
                                                                 -1,502 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   FiO2: 50% FM
   SpO2: 93%
   ABG: 7.47/50/74/32/10
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardeic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   54 K/uL
   99 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.5 mEq/L
   10 mg/dL
   102 mEq/L
   143 mEq/L
   30.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2180-12-29**]  05:42 AM
                             [**2180-12-29**]  09:49 AM
                             [**2180-12-30**]  03:53 AM
                             [**2180-12-31**]  05:14 AM
                             [**2180-12-31**]  10:19 AM
                             [**2180-12-31**]  01:54 PM
                             [**2180-12-31**]  10:40 PM
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
   WBC
   6.6
   4.6
   5.2
   Hct
   32.5
   31.4
   30.6
   Plt
   68
   58
   54
   Cr
   0.7
   0.8
   0.8
   TCO2
   33
   33
   37
   38
   38
   40
   37
   Glucose
   107
   130
   99
   Other labs: PT / PTT / INR:15.5/39.0/1.4, ALT / AST:97/55, Alk Phos / T
   Bili:70/1.9, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   49yo with ESLD, hepatopulm syndrome, varices.  now extubated.
   Neuro
    - Poor mental status, though mildly improving
    - Concitnue Acyclovir course (total 2 weeks)
    - continue lactulose and Rifaximin
       + will check baseline NH3
    - Keppra for seizure prophylaxis --> stop Keppra after course of
   acyclovir over.
   GI
    - Norfloxacin for SBP prophy
    - Will start propranolol for bleed prophylaxis
   Renal
    - Diurese TBB -1L per day
    - check pn lytes
   Pulm- now extubated.
   - Titrate FiO2 to keep SpO2= 88%; realizing pt has hepatopulm syndrome,
   though may have an additional V/Q mismatch
   - Pulm toilet with MIE
   Heme-
    - DVt prophy
   ID-
    - wll discuss SBP prophy regimen
   ICU
    - Full code
    - Access- we will place periph and d.c central line
    - d/c A- line
    - Prophy- SCDs, PPI
    - Will downgrade tomorrow; currently has high nursing requirements.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-12-21**] 04:00 PM
   Arterial Line - [**2180-12-27**] 01:42 AM
   20 Gauge - [**2180-12-31**] 08:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 min, patient remains critically ill

2181-01-02 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Spoke to Liver - no need for SBP prophylaxis
   - started propranolol 10mg [**Hospital1 7**]
   - up in chair for several hours
   - got peripheral IVs/ discontinued CVL
   - ammonia levels OK
   - mental status still poor, but following some commands, recognizes
   husband and son
   - gave 2mg IV  haldol for delirium overnight
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-1**] 09:00 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2181-1-2**] 02:00 AM
   Other medications:
   Flowsheet Data as of  [**2181-1-2**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 86 (83 - 111) bpm
   BP: 104/58(75) {85/46(60) - 109/62(78)} mmHg
   RR: 18 (18 - 39) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 303 (303 - 303)mmHg
   Total In:
                                                                  1,514 mL
                                                                    492 mL
   PO:
   TF:
                                                                    374 mL
                                                                    357 mL
   IVF:
                                                                    660 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  3,743 mL
                                                                  1,360 mL
   Urine:
                                                                  2,093 mL
                                                                  1,160 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -2,229 mL
                                                                   -868 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.42/54/70/34/8
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   right, Diminished: bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   53 K/uL
   10.5 g/dL
   118 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.6 mEq/L
   10 mg/dL
   108 mEq/L
   145 mEq/L
   30.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2180-12-31**]  10:19 AM
                             [**2180-12-31**]  01:54 PM
                             [**2180-12-31**]  10:40 PM
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
                             [**2181-1-1**]  12:32 PM
                             [**2181-1-2**]  02:51 AM
                             [**2181-1-2**]  03:12 AM
                             [**2181-1-2**]  05:15 AM
   WBC
   5.2
   4.4
   Hct
   30.6
   30.8
   Plt
   54
   53
   Cr
   0.8
   0.7
   TCO2
   37
   38
   38
   40
   37
   37
   35
   36
   Glucose
   99
   118
   Other labs: PT / PTT / INR:16.9/41.6/1.5, ALT / AST:25/42, Alk Phos / T
   Bili:57/2.0, LDH:229 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs: Ammonia 29 --> 45
   Imaging: No new imaging
   Microbiology: [**2180-12-30**] BCx x 2: NGTD
   [**2180-12-29**] UCx: negative
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection, and cerebral edema.
   # MS, Cerebral edema.  hepatic decompensation vs infectious vs anoxic
   brain injury after hypotensive when presented to OSH with variceal
   bleed.  MRI with evidence of grey-white matter cortical involvement,
   concerning for anoxic brain injury but location (symmetric
   temporal/insular) concerning for HSV encephalitis.   Peeled off CTX for
   coverage of bacterial meningitis - vanco continued for MRSA in sputum
   (now completed).
   - Neuro input appreciated
   - no need for repeat CT head
 MS improving
   - goal Na > 140 given we are out of acute period
   - serial Na [**Hospital1 7**]; goal Na > 140 per neuro
   - no need for mannitol
   - continue keppra for seizures prophylaxis
   - Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis; course is 14-21 days (d1 = [**12-21**])
   - continue lactulose/rifaxamin for encephalopathy.
   - trend ammonia
   - d/c'd Reglan and propofol as may be contributing to poor MS.
   # Respiratory failure.  Initially was intubated for airway protection,
   [**1-15**] GI bleed.  Later became confused, felt [**1-15**] hepatic encephalopathy.
   Had MRSA VAP, completed treatment with vancomycin ([**12-20**]- [**2180-12-28**]).  At
   baseline has hepatopulmonary syndrome with PaO2 in the 60s.    On lasix
   gtt.  Deferring paracenetesis as diuresing well and compliance measured
   at ~70 on [**12-31**] which is not significantly impaired.
   - continue diuresis with lasix/spironolactone today as BP tolerates;
   goal 1-2 liters negative
   -  extubated [**2180-12-31**]
   - Combivent nebs Q4 hours
    # Thrombocytopenia.  Likely [**1-15**] liver disease.  Received several
   platelet transfusion at [**Hospital3 1959**] hosptial.  Also received 1 unit
   PLTs here on [**2180-12-21**]
   - transfuse platelets for active bleeding (no evidence currently)
   - continue to monitor
   - consider DIC if clinical picture suggestive
   # ESLD.  Decompensated with encephalopathy and massive variceal
   bleeding at [**Hospital3 1959**] Hosp , s/p banding x 2 and 13 units PRBCs, 12
   units FFP, 20 units PLTs there.  Here,  bright red blood with clots
   lavaged from NG tube [**2180-12-24**].   GI aware of new bleeding, but felt not
   large volume.  Hemodynamically stable with stable Hct x days.
   - daily Hct
   - changed IV PPI [**Hospital1 7**] to PO PPI QD; no evidence of ongoing GI bleeding
   - stable from UGI bleeding standpoint
   - restart propranolol
   - liver input appreciated
   - lactulose/rifaxamin
   - RUQ u/s shows patent portal flow on [**2180-12-21**]
   - diagnostic paracentesis [**2180-12-21**] was negative for SBP
   - no need for SBP ppx per liver (protein in ascetic fluid > 1)
   - trend transaminases, Tbili, albumin, coags
    # Depression: hold meds given mental status
   # FEN: TFs
    # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition: TF with Fiber Source at 50 cc/hr
   Lines:  Multi Lumen - [**2180-12-21**] 04:00 PM and  Arterial Line -
   [**2180-12-27**] 01:42 AM
   Prophylaxis:   DVT: Boots;  Stress ulcer: PPI
   VAP:  extubated
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-31**] 09:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-12-27**] 01:42 AM
   20 Gauge - [**2181-1-1**] 01:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-01-02 09:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   OOB to chair yesterday.
   Copious secretions requiring NT suctioning and MIE yesterday.
   Secretions better today.
   CVC removed yesterday
   History obtained from Patient
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-1**] 09:00 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2181-1-2**] 02:00 AM
   Lansoprazole (Prevacid) - [**2181-1-2**] 07:50 AM
   Other medications:
   Rifaximin, ursodiol, RISS, Keppra, aldactone, albuterol/atrovent,
   propanolol, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-2**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 86 (83 - 111) bpm
   BP: 98/54(70) {90/51(66) - 109/62(78)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,514 mL
                                                                    684 mL
   PO:
             TF:
                                                                    374 mL
                                                                    464 mL
   IVF:
                                                                    660 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  3,743 mL
                                                                  1,525 mL
   Urine:
                                                                  2,093 mL
                                                                  1,325 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -2,229 mL
                                                                   -841 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.42/54/70/34/8
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): self, Movement: Not assessed, Tone: Not assessed, speech
   latency
   Labs / Radiology
   10.5 g/dL
   53 K/uL
   118 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.6 mEq/L
   10 mg/dL
   108 mEq/L
   145 mEq/L
   30.8 %
   4.4 K/uL
        [image002.jpg]
                             [**2180-12-31**]  10:19 AM
                             [**2180-12-31**]  01:54 PM
                             [**2180-12-31**]  10:40 PM
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
                             [**2181-1-1**]  12:32 PM
                             [**2181-1-2**]  02:51 AM
                             [**2181-1-2**]  03:12 AM
                             [**2181-1-2**]  05:15 AM
   WBC
   5.2
   4.4
   Hct
   30.6
   30.8
   Plt
   54
   53
   Cr
   0.8
   0.7
   TCO2
   37
   38
   38
   40
   37
   37
   35
   36
   Glucose
   99
   118
   Other labs: PT / PTT / INR:16.9/41.6/1.5, ALT / AST:25/42, Alk Phos / T
   Bili:57/2.0, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: None new
   Microbiology: BCx ([**12-30**]):  NGTD
   UCx ([**12-29**]): NGTD
   Assessment and Plan
   49yo with ESLD, hepatopulm syndrome, varices.  Initially admitted with
   variceal bleed, course c/b cerbral edema and seizure.
    Neuro:  More awake today per team.  Still with some speech latency and
   disorientation
     -Concitnue Acyclovir course (total 3 weeks)
     -continue lactulose and Rifaximin
     -Keppra for seizure prophylaxis, time course to be determined by
   neuron, possible EEG later today
    GI
     -No need for SBP prophylaxis per liver
     -On propranolol for bleed prophylaxis
    Renal
     -Diurese TBB -500cc today
     -Put back on home diuretic regimen today.
    Pulm:  now extubated and doing well.  Persistent FiO2 requirement may
   be, in part, related to known HPS.
     -Titrate FiO2 to keep SpO2= 88%
     -Pulm toilet with MIE as needed, encourage IS qid
   FEN:  tolerating TF at goal, will need formal S/S evaluation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2180-12-31**] 09:00 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-12-27**] 01:42 AM
   20 Gauge - [**2181-1-1**] 01:31 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2181-01-03 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had an EEG; official read is pending
   - was OOB to chair
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-3**] 01:20 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-1-2**] 07:50 AM
   Other medications:
   Flowsheet Data as of  [**2181-1-3**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 83 (78 - 91) bpm
   BP: 108/66(73) {89/52(61) - 110/68(75)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,899 mL
                                                                    654 mL
   PO:
             TF:
                                                                  1,209 mL
                                                                    374 mL
   IVF:
                                                                    231 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                  2,350 mL
   Urine:
                                                                  2,250 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -551 mL
                                                                 -1,696 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   right, Diminished: bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended but
   improved from prior days
   Skin:  no rashes, WWP
   Neurologic: Follows simple commands like hand squeezing, great speech
   latency but responds to questions appropriately, smiling.
   Labs / Radiology
   65 K/uL
   11.6 g/dL
   109 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.9 mEq/L
   11 mg/dL
   110 mEq/L
   146 mEq/L
   33.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2180-12-31**]  01:54 PM
                             [**2180-12-31**]  10:40 PM
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
                             [**2181-1-1**]  12:32 PM
                             [**2181-1-2**]  02:51 AM
                             [**2181-1-2**]  03:12 AM
                             [**2181-1-2**]  05:15 AM
                             [**2181-1-3**]  04:11 AM
   WBC
   5.2
   4.4
   4.7
   Hct
   30.6
   30.8
   33.6
   Plt
   54
   53
   65
   Cr
   0.8
   0.7
   0.7
   TCO2
   38
   38
   40
   37
   37
   35
   36
   Glucose
   99
   118
   109
   Other labs: PT / PTT / INR:15.7/38.8/1.4, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Imaging: No new imaging
   [**2181-1-2**] EEG; read pending
   Microbiology: No new microbiology data
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection (extubated on [**2180-12-31**]),
   and cerebral edema.   Overall, improving encephalopathy, though still
   with increased speech latency and some confusion requires occ
   suctioning and encouragement to cough (though can cough and bring up
   phlem).
   # MS, Cerebral edema: improving greatly over last few days; likely
   multifactorial from hepatic encephalopathy &  cerebral edema (possibly
   [**1-15**] liver disease +/- HSV encephalitis)  &  ICU dilirum.
   -- cont lactulose/rifaximin (lactulose held this morning for high stool
   output)
   -- f/u neuron recs; no need for repeat imaging currently
   -- cont keppra, though will discuss with neuron when possible to d/c;
   no recent seizure activity
   -- Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis; course is 21 days (d1 = [**12-21**])
   # Respiratory failure: has been doing well 72 hours post-extubation;
   remains on supplemental O2; likely some component of hepato-pulmonary
   syndrome; has been aggressively diuresed lately to reduce ascites load
   and improved chest wall compliance.
   -- no need for paracentesis currently
   -- wean O2 as tolerated; Sats > 88% ok
   -- continue diuresis goal I/O negative ~1L goal today; written for
   standing lasix 20 mg IV QD (home dose 40 mg QD)
   -- cont nebulizers PRN as needed for wheezing
   # ESLD.  Decompensated with encephalopathy and massive variceal
   bleeding at [**Hospital3 1959**] Hosp , s/p banding x 2 and 13 units PRBCs, 12
   units FFP, 20 units PLTs there.  Here,  bright red blood with clots
   lavaged from NG tube [**2180-12-24**].   GI aware of new bleeding, but felt not
   large volume.  Hemodynamically stable with stable Hct x days.
   -- daily Hct has been stable
   -- PO PPI
   -- cont lactulose, rifaximin
   -- no indication for SBP PPX per liver
   -- low platelets, but otherwise LFT
s and synthetic function decent and
   stable
   # Depression: hold meds given mental status
   # FEN: TFs w/ NGT; awaiting S&S eval
   # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition: TF with Fiber Source at 50 cc/hr
   Lines:  20 g PIV
   Prophylaxis:
   DVT: Boots;  Stress ulcer: PPI
   Comments: OOB to chair; put in PT/OT consult
   Code status: Full code
   Disposition:will call out to floor today ([**Hospital Ward Name 289**] 10, [**Doctor Last Name 976**] [**Doctor Last Name 2578**]
   service)

2181-01-03 11:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Underwent EEG yesterday, read pending
   Able to cough up some secretions today.
   2L of stool output, lactulose held.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-3**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-1-3**] 08:43 AM
   Other medications:
   Rifaximin, ursodiol, RISS, Keppra, ACV, Aldactone, Propanolol,
   Lactulose, Lasix (held today)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-3**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 84 (78 - 91) bpm
   BP: 94/57(63) {89/52(61) - 110/68(75)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,899 mL
                                                                  1,042 mL
   PO:
             TF:
                                                                  1,209 mL
                                                                    552 mL
   IVF:
                                                                    231 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                  2,550 mL
   Urine:
                                                                  2,250 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -551 mL
                                                                 -1,508 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress, Sitting in a chair
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Persistent speech
   latency
   Labs / Radiology
   11.6 g/dL
   65 K/uL
   109 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.9 mEq/L
   11 mg/dL
   110 mEq/L
   146 mEq/L
   33.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2180-12-31**]  01:54 PM
                             [**2180-12-31**]  10:40 PM
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
                             [**2181-1-1**]  12:32 PM
                             [**2181-1-2**]  02:51 AM
                             [**2181-1-2**]  03:12 AM
                             [**2181-1-2**]  05:15 AM
                             [**2181-1-3**]  04:11 AM
   WBC
   5.2
   4.4
   4.7
   Hct
   30.6
   30.8
   33.6
   Plt
   54
   53
   65
   Cr
   0.8
   0.7
   0.7
   TCO2
   38
   38
   40
   37
   37
   35
   36
   Glucose
   99
   118
   109
   Other labs: PT / PTT / INR:15.7/38.8/1.4, ALT / AST:25/42, Alk Phos / T
   Bili:57/2.0, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: EEG: pending
   Imaging: No new imaging
   Microbiology: No new micro
   Assessment and Plan
   49yo with ESLD, hepatopulm syndrome, varices.  Initially admitted with
   variceal bleed, course c/b cerbral edema and seizure.
    Neuro:  More awake today but clearly still some cognitive deficit.
     -Concitnue Acyclovir course (total 3 weeks)
     -continue lactulose and Rifaximin although will decrease lactuose
   today given large stool outptu.
     -Keppra for seizure prophylaxis, time course to be determined by
   neuro, follow up EEG from yesterday.
    GI
     -No need for SBP prophylaxis per liver
     -On propranolol for bleed prophylaxis
   Renal:  Started back on home diuretic regimen yesterday. Lasix held
   this AM for borderline BP
     -Will target even fluid balance.
    Pulm:  now extubated and doing well.  Persistent FiO2 requirement may
   be, in part, related to known HPS.
     -Titrate FiO2 to keep SpO2= 88%
     -Pulm toilet with MIE as needed, encourage IS qid
   FEN:  tolerating TF at goal, will need formal S/S evaluation at some
   point (has no gag on exam).
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2181-01-04 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   desatted to 85% on 5LNC (what she left on), c/f increased secretions,
   possibly aspiration though no fever; sats go up to upper 90's on NRB,
   no distress, ABG unchanged; CXR unchanged
   Passed speech and swallow with 1:1 supervision
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-4**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-1-3**] 08:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-4**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 89 (80 - 91) bpm
   BP: 92/60(67) {92/46(57) - 100/66(72)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,966 mL
                                                                    158 mL
   PO:
                                                                    600 mL
             TF:
                                                                    816 mL
   IVF:
                                                                    200 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                    419 mL
   Urine:
                                                                    670 mL
                                                                    419 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,354 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   10.8 g/dL
   88 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.5 mEq/L
   12 mg/dL
   105 mEq/L
   142 mEq/L
   31.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2180-12-31**]  10:40 PM
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
                             [**2181-1-1**]  12:32 PM
                             [**2181-1-2**]  02:51 AM
                             [**2181-1-2**]  03:12 AM
                             [**2181-1-2**]  05:15 AM
                             [**2181-1-3**]  04:11 AM
                             [**2181-1-4**]  04:46 AM
   WBC
   5.2
   4.4
   4.7
   4.4
   Hct
   30.6
   30.8
   33.6
   31.5
   Plt
   54
   53
   65
   58
   Cr
   0.8
   0.7
   0.7
   0.6
   TCO2
   38
   40
   37
   37
   35
   36
   Glucose
   99
   118
   109
   88
   Other labs: PT / PTT / INR:15.7/38.8/1.4, ALT / AST:25/42, Alk Phos / T
   Bili:57/2.0, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR
   Microbiology: Urine [**1-3**]: No growth to date
   BLood 1/17: No Growth to date
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection (extubated on [**2180-12-31**]),
   and cerebral edema.   Extubated, transferred out of ICU on [**1-3**], but
   re-admitted with hypoxia and ? aspiration.
   # Respiratory failure: Had been doing well post-extubation; remains on
   supplemental O2; likely some component of hepato-pulmonary syndrome;
   has been aggressively diuresed lately to reduce ascites load and
   improved chest wall compliance.  On the floor [**1-3**], desatted to 85% on
   5L NC; came up quickly,  unknown if aspirated, CXR essentially
   unchanged.
   -- monitor closely, hold on adding antibiotics for now
   -- aggressive pulmonary toilet
   -- wean O2 as tolerated; Sats > 88% ok
   -- continue diuresis goal I/O negative ~1L goal today; written for
   standing lasix 20 mg IV BID (home dose 40 mg QD)
   -- cont nebulizers PRN as needed for wheezing
   # Cerebral edema: Mental status improving greatly over last few days;
   likely multifactorial from hepatic encephalopathy &  cerebral edema
   (possibly [**1-15**] liver disease +/- HSV encephalitis)  &  ICU dilirum.
   -- cont lactulose/rifaximin
   -- f/u neuro recs; no need for repeat imaging currently
   -- cont keppra, though will discuss with neuron when possible to d/c;
   no recent seizure activity
   -- Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis; course is 21 days (d1 = [**12-21**])
   -- f/u EEG
   # ESLD.  Decompensated with encephalopathy and massive variceal
   bleeding at [**Hospital3 1959**] Hosp , s/p banding x 2 and 13 units PRBCs, 12
   units FFP, 20 units PLTs there.  Here,  bright red blood with clots
   lavaged from NG tube [**2180-12-24**].   GI aware of new bleeding, but felt not
   large volume.  Hemodynamically stable with stable Hct x days.
   -- daily Hct has been stable
   -- PO PPI
   -- cont lactulose, rifaximin
   -- no indication for SBP PPX per liver
   -- low platelets, but otherwise LFT
s and synthetic function decent and
   stable
   # Depression: hold meds given mental status
   # FEN: Pureed diet, TF
   # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition: Pureed diet + TF with Fiber Source at 50 cc/hr
   Lines:  20 g PIV
   Prophylaxis:
   DVT: Boots;  Stress ulcer: PPI
   Comments: OOB to chair; put in PT/OT consult
   Code status: Full code
   Disposition: ICU

2181-01-04 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Sent to floor yesterday and then returned to the ICU for desaturation
   to 85%.  No clear witnessed aspiration, noted to have copious
   secretions which she would cough up only with coaching.  Given lasix
   prior to transfer.
   No major events in the ICU overnight.  Currently with the same oxygen
   requirement as she had yesterday when she left the ICU.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-4**] 08:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Pantoprazole, atrovent/albuterol, lasix, lactulose, rifaximin,
   propanolol, spironolactone, Keppra, RISS, Ursodiol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-4**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 86 (71 - 91) bpm
   BP: 91/59(67) {85/40(48) - 100/66(72)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,966 mL
                                                                    583 mL
   PO:
                                                                    600 mL
             TF:
                                                                    816 mL
   IVF:
                                                                    200 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  3,320 mL
                                                                  1,269 mL
   Urine:
                                                                    670 mL
                                                                  1,269 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,354 mL
                                                                   -686 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at L base,
   Rhonchorous: R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, speech latency
   Labs / Radiology
   10.8 g/dL
   58 K/uL
   88 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.5 mEq/L
   12 mg/dL
   105 mEq/L
   142 mEq/L
   31.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2180-12-31**]  10:40 PM
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
                             [**2181-1-1**]  12:32 PM
                             [**2181-1-2**]  02:51 AM
                             [**2181-1-2**]  03:12 AM
                             [**2181-1-2**]  05:15 AM
                             [**2181-1-3**]  04:11 AM
                             [**2181-1-4**]  04:46 AM
   WBC
   5.2
   4.4
   4.7
   4.4
   Hct
   30.6
   30.8
   33.6
   31.5
   Plt
   54
   53
   65
   58
   Cr
   0.8
   0.7
   0.7
   0.6
   TCO2
   38
   40
   37
   37
   35
   36
   Glucose
   99
   118
   109
   88
   Other labs: PT / PTT / INR:15.7/38.8/1.4, ALT / AST:25/42, Alk Phos / T
   Bili:57/2.0, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR:  Low lung volumes, No effusion or infiltrate
   Microbiology: UCx: NGTD
   Assessment and Plan
   49yo with ESLD, hepatopulm syndrome, varices.  Initially admitted with
   variceal bleed, course c/b cerbral edema and seizure.  Sent back to the
   ICU for transient drop in sats.
   Hypoxemia:  Likely combination of resolving PNA with secretions,
   atelectasis from abdominal distention and HPS.  Acute drop overnight
   may have been from mucous plug.  No signs of PNA at present.
     -Titrate FiO2 to keep sat's >88%.
     -Continue pulmonary toilet
   Neuro:  Cognitive deficit persists.
     -Concitnue Acyclovir course (total 3 weeks)
     -continue lactulose and Rifaximin.
     -continues on keppra per neuro.  F/u EEG.
    GI
      -No need for SBP prophylaxis per liver
     -On propranolol for bleed prophylaxis
   Renal:  Started back on home diuretic regimen yesterday.
     -Will target even to slightly negative fluid balance.
   FEN:  tolerating TF at goal, per SLP, able to eat dysphagia diet with
   close monitoring.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-1-3**] 11:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU will screen for rehab.
   Total time spent: 30 minutes

2181-01-05 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - neuro recs: no seizure activity on EEG, , will need keppra x several
   months.   Recommend repeat MRI in 1 month and f/u in behavioral neuro
   clinic f/u for neuropsych testing
   - being screened for rehab ([**Location (un) 3833**] and [**Hospital1 **])
   - on lasix boluses, tolerating well
   - haldol 2.5mg IV x 1 for delirium o/n
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-5**] 12:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-1-4**] 08:50 PM
   Haloperidol (Haldol) - [**2181-1-4**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-5**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 81 (71 - 94) bpm
   BP: 91/62(69) {71/40(48) - 117/70(79)} mmHg
   RR: 20 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,040 mL
                                                                    313 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                  1,020 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  3,519 mL
                                                                    555 mL
   Urine:
                                                                  3,219 mL
                                                                    555 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,479 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   63 K/uL
   10.9 g/dL
   88 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.6 mEq/L
   10 mg/dL
   103 mEq/L
   139 mEq/L
   31.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
                             [**2181-1-1**]  12:32 PM
                             [**2181-1-2**]  02:51 AM
                             [**2181-1-2**]  03:12 AM
                             [**2181-1-2**]  05:15 AM
                             [**2181-1-3**]  04:11 AM
                             [**2181-1-4**]  04:46 AM
                             [**2181-1-5**]  04:51 AM
   WBC
   5.2
   4.4
   4.7
   4.4
   4.0
   Hct
   30.6
   30.8
   33.6
   31.5
   31.5
   Plt
   54
   53
   65
   58
   63
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   TCO2
   40
   37
   37
   35
   36
   Glucose
   99
   118
   109
   88
   88
   Other labs: PT / PTT / INR:15.7/38.8/1.4, ALT / AST:25/42, Alk Phos / T
   Bili:57/2.0, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: none today
   Microbiology: [**2181-1-3**] 8:20 pm URINE      Source: Catheter.
                               **FINAL REPORT [**2181-1-4**]**
      URINE CULTURE (Final [**2181-1-4**]):
         YEAST.    ~7000/ML.
   Assessment and Plan
   49 y.o. female with Hep C and alcoholic cirrhosis, initially admitted
   with variceal bleeding to OSH, stabilized, but developed hepatic
   encephalopathy, intubated for airway protection (extubated on [**2180-12-31**]),
   and cerebral edema.   Extubated, transferred out of ICU on [**1-3**], but
   re-admitted with hypoxia and ? aspiration.
   # Respiratory failure: Had been doing well post-extubation; remains on
   supplemental O2; likely some component of hepato-pulmonary syndrome;
   has been aggressively diuresed lately to reduce ascites load and
   improved chest wall compliance.  On the floor [**1-3**], desatted to 85% on
   5L NC; came up quickly,  unknown if aspirated, CXR essentially
   unchanged.
   -- monitor closely, hold on adding antibiotics for now
   -- aggressive pulmonary toilet
   -- wean O2 as tolerated; Sats > 88% ok
   -- continue diuresis goal I/O negative ~1L goal today; written for
   standing lasix 20 mg IV BID (home dose 40 mg QD)
   -- cont nebulizers PRN as needed for wheezing
   # Cerebral edema: Mental status improving greatly over last few days;
   likely multifactorial from hepatic encephalopathy &  cerebral edema
   (possibly [**1-15**] liver disease +/- HSV encephalitis)  &  ICU dilirum.
   -- cont lactulose/rifaximin
   -- f/u neuro recs; no need for repeat imaging currently
   -- cont keppra, though will discuss with neuron when possible to d/c;
   no recent seizure activity
   -- Acyclovir dose decreased to 650mg based on IBW, Q8H to cover HSV
   encephalitis; course is 21 days (d1 = [**12-21**])
   -- f/u EEG
   # ESLD.  Decompensated with encephalopathy and massive variceal
   bleeding at [**Hospital3 1959**] Hosp , s/p banding x 2 and 13 units PRBCs, 12
   units FFP, 20 units PLTs there.  Here,  bright red blood with clots
   lavaged from NG tube [**2180-12-24**].   GI aware of new bleeding, but felt not
   large volume.  Hemodynamically stable with stable Hct x days.
   -- daily Hct has been stable
   -- PO PPI
   -- cont lactulose, rifaximin
   -- no indication for SBP PPX per liver
   -- low platelets, but otherwise LFT
s and synthetic function decent and
   stable
   # Depression: hold meds given mental status
   # FEN: Pureed diet, TF
   # Comm: [**Name (NI) 186**] [**Name (NI) **] is HCP.  [**Name (NI) **] family members visit
   ICU Care
   Nutrition:
   Comments: TFs, diet as toelrated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-1-3**] 11:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2181-01-05 11:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Some mild delirium overnight, received low dose Haldol.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Nadolol
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2181-1-5**] 08:22 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-1-4**] 08:50 PM
   Haloperidol (Haldol) - [**2181-1-4**] 10:30 PM
   Other medications:
   Albuterol/atrovent, lactulose, propanolol, aldactone, keppra, RISS,
   ursodiol, rifaximin, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-5**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 69 (69 - 94) bpm
   BP: 91/59(66) {71/46(51) - 111/70(79)} mmHg
   RR: 15 (13 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,040 mL
                                                                    632 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                  1,020 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  3,519 mL
                                                                  1,525 mL
   Urine:
                                                                  3,219 mL
                                                                  1,525 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,479 mL
                                                                   -893 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bibasilar), Poor
   inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Speech latency
   Labs / Radiology
   10.9 g/dL
   63 K/uL
   88 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.6 mEq/L
   10 mg/dL
   103 mEq/L
   139 mEq/L
   31.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2181-1-1**]  12:25 AM
                             [**2181-1-1**]  03:33 AM
                             [**2181-1-1**]  03:58 AM
                             [**2181-1-1**]  12:32 PM
                             [**2181-1-2**]  02:51 AM
                             [**2181-1-2**]  03:12 AM
                             [**2181-1-2**]  05:15 AM
                             [**2181-1-3**]  04:11 AM
                             [**2181-1-4**]  04:46 AM
                             [**2181-1-5**]  04:51 AM
   WBC
   5.2
   4.4
   4.7
   4.4
   4.0
   Hct
   30.6
   30.8
   33.6
   31.5
   31.5
   Plt
   54
   53
   65
   58
   63
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   TCO2
   40
   37
   37
   35
   36
   Glucose
   99
   118
   109
   88
   88
   Other labs: PT / PTT / INR:15.7/38.8/1.4, ALT / AST:25/42, Alk Phos / T
   Bili:57/2.0, Differential-Neuts:83.8 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:2.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:229 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: EEG:  No seizure activity
   Microbiology: UCx:  Yeast
   Assessment and Plan
   49yo with ESLD, hepatopulm syndrome, varices.  Initially admitted with
   variceal bleed, course c/b cerbral edema and seizure.  Sent back to the
   ICU for transient drop in sats.
   Hypoxemia:  Likely combination of resolving PNA with secretions,
   atelectasis from abdominal distention and HPS.  Oxygen requirements
   continuing to decrease, currently on 3L.
     -Titrate FiO2 to keep sat's >88%.
     -Continue pulmonary toilet
   Neuro:  Cognitive deficit persists.  EEG without evidence of seizure.
     -Concitnue Acyclovir course (total 3 weeks)
     -continue lactulose and Rifaximin.
     -continues on keppra per neuro.
    GI
     -No need for SBP prophylaxis per liver
     -On propranolol for bleed prophylaxis
    Renal:  Started back on home diuretic regimen.
     -Will target negative fluid balance.
    FEN:  Restart TF. Per SLP, able to eat dysphagia diet with close
   monitoring.
     -Will change NGT to Dobhoff in preparation for going to rehab.
   Dispo:  OK to go to the floor, also screening for rehab.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-1-5**] 09:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor / rehab
   Total time spent: 30 minutes